2169-11-07 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2169-11-6**] 06:43 PM
 DIALYSIS CATHETER - START [**2169-11-6**] 08:00 PM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-11-7**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 80 (74 - 80) bpm
   BP: 88/48(57) {79/40(49) - 92/48(57)} mmHg
   RR: 15 (15 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 21 (21 - 22)mmHg
   Total In:
                                                                    250 mL
                                                                     53 mL
   PO:
   TF:
   IVF:
   Blood products:
                                                                    250 mL
                                                                     53 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    250 mL
                                                                     53 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///20/
   Physical Examination
   PHYSICAL EXAM
   GENERAL: Severly jaundiced. Pleasant, NAD. Sleepy, but easily aroused
   by verbal stimuli.
   HEENT: + scleral icterus. Dry mucus membranes. OP clear.
   CARDIAC: Regular rhythm, normal rate. Normal S1, S2. No m/r/g.
   LUNGS: CTAB, good air movement bilaterally.
   ABDOMEN: Soft, distended. Tender to deeper palpation, particularly in
   RUQ. +BS. Able to percuss hepatomegaly approximately 3 cm below ribs,
   and palpate splenomegaly approximately 4 cm below ribs.
   EXTREMITIES: + 3 lower extremity edema b/l. Upper extremities without
   edema.
   SKIN: Severly jaundiced. No spider angiomata.
   NEURO: A&O. Appropriate. CN 2-12 grossly intact. Preserved sensation
   grossly. 5/5 strength upper extremities, lower extremity testing
   deferred given was just positioned on side, with leg brace in place.
   Slight intention tremor on FNF testing. Gait assessment deferred d/t
   lightheadedness/hypotension. Asterixis present.
   PSYCH: Listens and responds to questions appropriately, asks
   appropriate questions, pleasant, cooperative. Oriented. Mildly poor
   attention. Sleepy, but easily aroused.
   Labs / Radiology
   121 K/uL
   7.2 g/dL
   84 mg/dL
   4.8 mg/dL
   20 mEq/L
   3.9 mEq/L
   12 mg/dL
   106 mEq/L
   139 mEq/L
   21.8 %
   9.6 K/uL
        [image002.jpg]
                            [**2169-11-7**]  03:20 AM
   WBC
   9.6
   Hct
   21.8
   Plt
   121
   Cr
   4.8
   Glucose
   84
   Other labs: PT / PTT / INR:24.4/49.2/2.3, ALT / AST:16/43, Alk Phos / T
   Bili:105/20.8, LDH:187 IU/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 HEPATORENAL SYNDROME
   51 year old female with ESLD secondary to alcohol cirrhosis complicated
   by HRS requiring dialysis. Patient has been admitted in context of high
   MELD for possible transplant but has not been able to undergo testing
   [**12-26**]
   .
   #. Hypotension: With CVP of 20, believed to be due to redistribution of
   fluids from the intravascular to extravascular compartments, as
   evidenced by hypotension and significant ascites/peripheral edema. In
   the ICU, through close BP monitoring plus pressors, hopefully can
   continue ESLD work-up without hypotension/lightheadedness being an
   obstacle.
   - Continue midodrine, increase to 15mg [**Hospital1 **]
   - Give albumin 50g IV tonight
   - Pressors for procedures prn, with goal MAP >65; phenylephrine [neo]
   1st choice (due to normal-to-high CO and low SVR), norepinephrine
   [levo] 2nd choice.
   - Hold on IVF for now, given elevated CVP
   .
   #. End-stage liver disease: MELD score based on [**10-27**] labs was 42.
   Patient currently stable and fully oriented with no clinically symptoms
   of acute liver decompensation. Patient has been evaluated by the
   transplant team as an outpatient who recommended admission for possible
   tranplant based on elevated MELD score. Plan for EGD and dobhoff
   placement today otherwise transplant eval is apparently complete.
   - EGD and dobhoff placement today, NPO at midnight
   - Check AM INR and give FFP for procedures, pending proceduralists'
   preferences
   - Consent for blood products
   - Restart lactulose 15mg [**Hospital1 **]
   - Increase rifaximin to 400mg tid
   - Continue ciprofloxacin for SBP pxs - ask pharmacy/hepatology re: dose
   - Active T & S
   - F/u hepatology recs
   .
   # Hepatorenal Syndrome: Creatinine on transfer to MICU 4.2. Requires
   dialysis three times a week. Patient is candidate for dual liver-renal
   transplant and followed by Dr. [**Last Name (STitle) 9881**].
   - Continue midodrine
   - Continue sevelamer and nephrocaps
   - Give albumin tonight
   - f/u renal recs
   - Plan for UF with some HD today
   - Giving 1 unit pRBC this morning, per renal
   - Epo with HD for anemia of ESRD, MWF
   .
   # Alcohol abuse: Patient has not had a drink since [**Month (only) 93**], therefore no
   need for CIWA.
   - Continue Folic Acid, Thiamine, MVI
   .
   FEN: Renal diet. NPO at midnight for am EGD. Plan for Dobhoff today.
   - Consult nutrition for poor po intake, low albumin, and tube feeding
   recommendations once Dobhoff placed
   .
   PPX:
   -DVT ppx with Pneumoboots
   -omeprazole 20mg daily
   -clotrimazole trocs
   -Bowel regimen senna prn, lactulose.
   .
   ACCESS: Power PICC, L IJ HD catheter. Consider A-line for close BP
   monitoring during procedures.
   .
   CODE STATUS: Full code (confirmed with patient).
   .
   EMERGENCY CONTACT: [**Name (NI) **] [**Known lastname 4887**] (husband, [**Name (NI) 117**] [**Telephone/Fax (1) 9882**] (cell),
   [**Telephone/Fax (1) 9883**], [**Telephone/Fax (1) 9884**]. Was updated on [**11-4**] reagrding patient's
   admission to the MICU.
   .
   DISPOSITION: MICU given hypotension. Likely post-procedures for
   transplant workup will be able to go back to the floor liver service,
   if BP tolerates.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2169-11-6**] 06:43 PM
   Dialysis Catheter - [**2169-11-6**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2169-11-07 10:04:00 Physician Attending Progress Note
Chief Complaint: Hypotension, Liver Failure, Renal failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2169-11-6**] 06:43 PM
 DIALYSIS CATHETER - START [**2169-11-6**] 08:00 PM
   CVP measured as 20 yesterday --> no fluid challenge given
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain
   Gastrointestinal: No(t) Abdominal pain
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2169-11-7**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 74 (74 - 80) bpm
   BP: 96/36(51) {79/36(49) - 96/48(57)} mmHg
   RR: 32 (15 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 21 (21 - 22)mmHg
   Total In:
                                                                    250 mL
                                                                    330 mL
   PO:
   TF:
   IVF:
   Blood products:
                                                                    250 mL
                                                                    330 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    250 mL
                                                                    330 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress, jaundiced
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   faint at L base)
   Abdominal: No(t) Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversive
   Labs / Radiology
   7.2 g/dL
   121 K/uL
   84 mg/dL
   4.8 mg/dL
   20 mEq/L
   3.9 mEq/L
   12 mg/dL
   106 mEq/L
   139 mEq/L
   21.8 %
   9.6 K/uL
        [image002.jpg]
                            [**2169-11-7**]  03:20 AM
   WBC
   9.6
   Hct
   21.8
   Plt
   121
   Cr
   4.8
   Glucose
   84
   Other labs: PT / PTT / INR:24.4/49.2/2.3, ALT / AST:16/43, Alk Phos / T
   Bili:105/20.8, LDH:187 IU/L, Ca++:8.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 HEPATORENAL SYNDROME
   51 yo woman with EtOH cirrhosis admitted to MICU with persitent
   hypotension.
   1. EtOH cirrhosis: MELD 40.  COnt lactulose and rifaxamin.  EGD and
   dobhoff today in MICU as part of transplant workup
   2. Hypotension - [**12-26**] cirrhosis, ha been stable on the floor.  Will
   likely need some pressor support while sedation for EGD.  CVP of 20 -->
   no need for further fluid challenge.  Cont midodrine.
   3. Acute renal failure: c/w HRS.  Starting CRRT in unit today mostly
   for UF purposes.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2169-11-6**] 06:43 PM
   Dialysis Catheter - [**2169-11-6**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2169-11-08 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2169-11-7**] 10:45 AM
 EKG - At [**2169-11-7**] 11:10 AM
 ENDOSCOPY - At [**2169-11-7**] 12:00 PM
   -1 unit pRBC today, post transfusion HCT 25 (21.8 -> 25)
   - Hepatology:  patient listed for liver/kidney transplant. Octreotide
   will not help as patient has been on HD chronically (receives HD 3x per
   wk) and kidneys will not recover, not HRS.
   - EGD showed single grade 1 varix in distal esophagus, mod severity
   portal hypertensive gastropathy, both without stigmata of bleeding. No
   mention of bands placed. Dobhoff placed.
   - Tube feeds started; pt had problems with nausea/vomiting overnight,
   given zofran 4mg, which helped temporarily but recurred, so TFs were
   stopped.
   - Bradycardia: pt became brady to 50s within 5 minutes of starting on
   neo; switched to levophed for yesterday's procedures.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Phenylephrine
   Symptomatic bra
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.5 grams/hour
   Other ICU medications:
   Midazolam (Versed) - [**2169-11-7**] 12:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-11-8**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 35.6
C (96.1
   HR: 72 (60 - 88) bpm
   BP: 103/59(70) {65/36(47) - 112/80(216)} mmHg
   RR: 16 (14 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
    Mixed Venous O2% Sat: 78 - 78
   Total In:
                                                                  2,721 mL
                                                                  1,079 mL
   PO:
   TF:
                                                                    219 mL
                                                                     61 mL
   IVF:
                                                                  1,394 mL
                                                                    967 mL
   Blood products:
                                                                    948 mL
   Total out:
                                                                  1,688 mL
                                                                  2,071 mL
   Urine:
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,033 mL
                                                                   -992 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.42/34/46/18/-1
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   110 K/uL
   8.7 g/dL
   272 mg/dL
   2.7 mg/dL
   18 mEq/L
   4.3 mEq/L
   10 mg/dL
   103 mEq/L
   135 mEq/L
   26.2 %
   13.2 K/uL
         [image002.jpg]
                            [**2169-11-7**]  03:20 AM
                            [**2169-11-7**]  03:26 PM
                            [**2169-11-7**]  03:45 PM
                            [**2169-11-7**]  10:18 PM
                            [**2169-11-8**]  04:10 AM
                            [**2169-11-8**]  04:22 AM
   WBC
   9.6
   13.2
   Hct
   21.8
   25.0
   27
   26.2
   Plt
   121
   110
   Cr
   4.8
   2.7
   TCO2
   23
   Glucose
   84
   139
   271
   245
   272
   Other labs: PT / PTT / INR:23.2/45.5/2.2, ALT / AST:16/50, Alk Phos / T
   Bili:124/26.5, Lactic Acid:2.7 mmol/L, Albumin:3.5 g/dL, LDH:216 IU/L,
   Ca++:8.6 mg/dL, Mg++:2.6 mg/dL, PO4:2.4 mg/dL
   LFT
s approximately stable other than rise in TBili from 20.8 to 26.5
   [**11-7**]: Abdominal x-ray wet read:
   Dobbhoff coiled within the stomach.
   No new micro.
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATORENAL SYNDROME
   51 year old female with ESLD secondary to alcohol cirrhosis complicated
   by HRS requiring dialysis. Patient has been admitted in context of high
   MELD for possible transplant but has not been able to undergo testing
   [**12-26**] hypotension.
   .
   #. Hypotension: With CVP of 20, believed to be due to redistribution of
   fluids from the intravascular to extravascular compartments, as
   evidenced by hypotension and significant ascites/peripheral edema. In
   the ICU, through close BP monitoring plus pressors, hopefully can
   continue ESLD work-up without hypotension/lightheadedness being an
   obstacle.
   - Continue midodrine 15mg [**Hospital1 **]
   - Gave albumin 50g IV [**11-6**]; f/u hepatology regarding giving more today
   - Pressors for procedures prn, with goal MAP >65; phenylephrine [neo]
   1st choice (due to normal-to-high CO and low SVR), norepinephrine
   [levo] 2nd choice.
   - Hold on IVF for now, given elevated CVP
   - f/u with hepatology re: giving octreotide
   .
   #. End-stage liver disease: MELD score based on [**11-7**] labs = 40.
   Patient currently stable and fully oriented with no clinically symptoms
   of acute liver decompensation. Patient has been evaluated by the
   transplant team as an outpatient who recommended admission for possible
   tranplant based on elevated MELD score. Plan for EGD and dobhoff
   placement today otherwise transplant eval is apparently complete.
   - EGD and Dobhoff placement today, NPO since midnight
   - Give FFP now prior to procedures, per hepatology
   - Continue lactulose 15mg [**Hospital1 **]
   - Continue rifaximin to 400mg tid
   - Continue ciprofloxacin for SBP pxs - ask pharmacy/hepatology re: dose
   - Active T & S
   - F/u hepatology recs
   .
   # Hepatorenal Syndrome: Creatinine on transfer to MICU 4.2. Requires
   dialysis three times a week. Patient is candidate for dual liver-renal
   transplant and followed by Dr. [**Last Name (STitle) 9881**].
   - Continue midodrine
   - Continue sevelamer and nephrocaps
   - s/p albumin on [**11-7**]
   - f/u renal recs
   - Plan for UF with some HD today
   - Giving 1 unit pRBC this morning, per renal
   - Epo with HD for anemia of ESRD, MWF
   .
   # Alcohol abuse: Patient has not had a drink since [**Month (only) 93**], therefore no
   need for CIWA.
   - Continue Folic Acid, Thiamine, MVI
   .
   FEN: Renal diet. NPO since midnight today for EGD. Plan for Dobhoff
   today.
   - Once Dobhoff placed, restart tubefeeds per nutrition recs.
   .
   PPX:
   -DVT ppx with Pneumoboots
   -omeprazole 20mg daily
   -clotrimazole trocs
   -Bowel regimen senna prn, lactulose.
   .
   ACCESS: Power PICC, L IJ HD catheter
   .
   CODE STATUS: Full code (confirmed with patient).
   .
   EMERGENCY CONTACT: [**Name (NI) **] [**Known lastname 4887**] (husband, [**Name (NI) 117**] [**Telephone/Fax (1) 9882**] (cell),
   [**Telephone/Fax (1) 9883**], [**Telephone/Fax (1) 9884**]. Was updated on [**11-4**] reagrding patient's
   admission to the MICU.
   .
   DISPOSITION: MICU given hypotension. Likely post-procedures for
   transplant workup will be able to go back to the floor liver service,
   if BP tolerates.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2169-11-8**] 04:52 AM 10 mL/hour
   Lines:
   PICC Line - [**2169-11-6**] 06:43 PM
   Dialysis Catheter - [**2169-11-6**] 08:00 PM
   Code status: Full code

2169-11-08 11:39:00 Physician Attending Progress Note
Chief Complaint: Hypotension, Renal Failure, Cirrhosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feels cold on CVVH
   24 Hour Events:
 EKG - At [**2169-11-7**] 10:45 AM
 EKG - At [**2169-11-7**] 11:10 AM
 ENDOSCOPY - At [**2169-11-7**] 12:00 PM
   Dobhoff placed
   On CRRT with about 150cc off per hours.  Requiring 0.22 of levophed
   with CRRT.
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Phenylephrine
   Symptomatic bra
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.22 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Midazolam (Versed) - [**2169-11-7**] 12:35 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2169-11-8**] 11:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.1
C (96.9
   HR: 77 (69 - 88) bpm
   BP: 97/56(65) {65/36(47) - 112/63(216)} mmHg
   RR: 29 (16 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 94.5 kg
   Height: 62 Inch
   Mixed Venous O2% Sat: 78 - 78
   Total In:
                                                                  2,721 mL
                                                                  1,735 mL
   PO:
   TF:
                                                                    219 mL
                                                                     98 mL
   IVF:
                                                                  1,394 mL
                                                                  1,467 mL
   Blood products:
                                                                    948 mL
   Total out:
                                                                  1,688 mL
                                                                  3,186 mL
   Urine:
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                  1,033 mL
                                                                 -1,451 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.42/34/46/17/-1
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: scleral icterus
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   8.7 g/dL
   110 K/uL
   205 mg/dL
   2.1 mg/dL
   17 mEq/L
   4.2 mEq/L
   9 mg/dL
   105 mEq/L
   137 mEq/L
   26.2 %
   13.2 K/uL
        [image002.jpg]
                            [**2169-11-7**]  03:20 AM
                            [**2169-11-7**]  03:26 PM
                            [**2169-11-7**]  03:45 PM
                            [**2169-11-7**]  10:18 PM
                            [**2169-11-8**]  04:10 AM
                            [**2169-11-8**]  04:22 AM
                            [**2169-11-8**]  09:47 AM
   WBC
   9.6
   13.2
   Hct
   21.8
   25.0
   27
   26.2
   Plt
   121
   110
   Cr
   4.8
   2.7
   2.1
   TCO2
   23
   Glucose
   84
   139
   271
   245
   272
   205
   Other labs: PT / PTT / INR:23.2/45.5/2.2, ALT / AST:16/50, Alk Phos / T
   Bili:124/26.5, Lactic Acid:2.7 mmol/L, Albumin:3.5 g/dL, LDH:216 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.6 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATORENAL SYNDROME
   51 yo woman with EtOH cirrhosis admitted to MICU with persistent
   hypotension.
   1. EtOH cirrhosis: Cont lactulose and rifaxamin.
   2. Hypotension - Cont levophed while on CRRT - got bradycardic
   yesterday with neosynephrine.  Cont midodrine.
   3. Acute renal failure: Cont CRRT for fluid removal
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2169-11-8**] 04:52 AM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2169-11-6**] 06:43 PM
   Dialysis Catheter - [**2169-11-6**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2169-11-09 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ESLD, ESRD, hepatorenal syndrome
   24 Hour Events:
   - Dobhoff coiled but ok if feeds entering smoothly
   - Midodrine increased to tid
   - Zofran, reglan ordered
   - Goal MAP >65
   - Renal recs:  Epo increased, will not dialyze pt today ([**11-9**]) as pt's
   phosphate is very low, will only do UFO. Please replete phos
   aggressively
 wrote for 2 packets of neutraphos and IV phos.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Phenylephrine
   Symptomatic bra
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.22 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2169-11-9**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.4
C (97.6
   HR: 79 (69 - 80) bpm
   BP: 97/53(61) {87/47(57) - 107/65(74)} mmHg
   RR: 18 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 94.5 kg
   Height: 62 Inch
             Total In:
                                                                  3,629 mL
                                                                  1,231 mL
   PO:
             TF:
                                                                    301 mL
                                                                    225 mL
   IVF:
                                                                  2,688 mL
                                                                    906 mL
   Blood products:
   Total out:
                                                                  6,365 mL
                                                                  2,378 mL
   Urine:
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,736 mL
                                                                 -1,147 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   GEN: NAD,
   CV: RRR, no murmurs
   PULM; CTA bilat
   ABD: soft, nt, distended, +bs
   EXTR: edema significant
   Labs / Radiology
   113 K/uL
   8.2 g/dL
   160 mg/dL
   1.2 mg/dL
   18 mEq/L
   4.4 mEq/L
   5 mg/dL
   106 mEq/L
   136 mEq/L
   25.0 %
   14.2 K/uL
        [image002.jpg]
                            [**2169-11-7**]  03:20 AM
                            [**2169-11-7**]  03:26 PM
                            [**2169-11-7**]  03:45 PM
                            [**2169-11-7**]  10:18 PM
                            [**2169-11-8**]  04:10 AM
                            [**2169-11-8**]  04:22 AM
                            [**2169-11-8**]  09:47 AM
                            [**2169-11-8**]  04:02 PM
                            [**2169-11-8**]  10:00 PM
                            [**2169-11-9**]  03:53 AM
   WBC
   9.6
   13.2
   13.4
   14.2
   Hct
   21.8
   25.0
   27
   26.2
   24.0
   25.0
   Plt
   121
   110
   115
   113
   Cr
   4.8
   2.7
   2.1
   1.8
   1.5
   1.2
   TCO2
   23
   Glucose
   84
   139
   271
   245
   272
   [**Telephone/Fax (2) 9923**]60
   Other labs: PT / PTT / INR:24.0/46.6/2.3, ALT / AST:19/66, Alk Phos / T
   Bili:132/26.8, Lactic Acid:2.7 mmol/L, Albumin:3.4 g/dL, LDH:225 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.7 mg/dL, PO4:0.7 mg/dL
   Imaging: Portable abdomen [**11-7**]: The Dobbhoff tube coils back on itself
   within the stomach. The
   bowel gas and stool pattern shows no evidence of obstruction.
   Microbiology: None new
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATORENAL SYNDROME
   51 year old female with ESLD secondary to alcohol cirrhosis complicated
   by HRS requiring dialysis. Patient has been admitted in context of high
   MELD for possible transplant but has not been able to undergo testing
   [**12-26**] hypotension.
   .
   #. Hypotension: With CVP of 20, believed to be due to redistribution of
   fluids from the intravascular to extravascular compartments, as
   evidenced by hypotension and significant ascites/peripheral edema. In
   the ICU, through close BP monitoring plus pressors, hopefully can
   continue ESLD work-up without hypotension/lightheadedness being an
   obstacle.
   - Increased midodrine to 15mg tid
   - Goal MAP >65; on norepinephrine [levo]. Wean today as tolerated.
   - f/u with hepatology and renal recs
   .
   #. End-stage liver disease: MELD score based on [**11-7**] labs = 40.
   Patient currently stable and fully oriented with no clinically symptoms
   of acute liver decompensation. Patient has been evaluated by the
   transplant team as an outpatient who recommended admission for possible
   tranplant based on elevated MELD score. Plan for EGD and dobhoff
   placement today otherwise transplant eval is apparently complete.
   Listed for transplant for kidney/liver.
   - EGD and Dobhoff done on [**11-7**]; OK to feed through dobhoff so long as
   flowing freely.
   - Continue lactulose 15mg [**Hospital1 **]
   - Continue rifaximin to 400mg tid
   - Continue ciprofloxacin for SBP px
   - Active T & S
   - F/u hepatology recs
   - tubefeeds slowly today; zofran prn nausea
   - no need for transfusion today
   .
   #. Leukocytosis: Could be due to UF, but given concern for infection in
   setting of plan for transplant, will pan-culture patient, send C. Diff,
   and obtain a CXR.
   - follow up CXR, sputum, blood and urine cultures, C. diff toxin
   .
   # Hepatorenal Syndrome: Creatinine on transfer to MICU 4.2. Requires
   dialysis three times a week. Patient is candidate for dual liver-renal
   transplant and followed by Dr. [**Last Name (STitle) 9881**].
   - Continue midodrine
   - Holding sevelamer given pt
s hypophosphatemia
   - continue nephrocaps
   - s/p albumin on [**11-7**], no albumin needed as pt w. chronic renal
   insufficiency
   - f/u renal and hepatology recs
   - HD today
   - Epo with HD for anemia of ESRD, MWF
   - replete phos
   .
   # Alcohol abuse: Patient has not had a drink since [**Month (only) 93**], therefore no
   need for CIWA.
   - Continue Folic Acid, Thiamine, MVI
   .
   FEN: Renal diet. PO ok.
   - Tubefeeds per nutrition recs.
   .
   PPX:  DVT ppx with Pneumoboots; -omeprazole 20mg daily; Bowel regimen
   senna prn, lactulose.
   .
   ACCESS: Power PICC, L IJ HD catheter.
   .
   CODE STATUS: Full code (confirmed with patient).
   .
   EMERGENCY CONTACT: [**Name (NI) **] [**Known lastname 4887**] (husband, [**Name (NI) 117**] [**Telephone/Fax (1) 9882**] (cell),
   [**Telephone/Fax (1) 9883**], [**Telephone/Fax (1) 9884**]. Was updated on [**11-4**] reagrding patient's
   admission to the MICU.
   .
   DISPOSITION: MICU until can wean off pressors.

2169-11-09 10:35:00 Physician Attending Progress Note
Chief Complaint: Cirrhosis, Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Continues on CVVH
   Pt with no complaints except still feeling chilled
   24 Hour Events:
   2.l7 L negative yesterday
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Phenylephrine
   Symptomatic bra
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.19 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Dialysis
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2169-11-9**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 36.9
C (98.4
   HR: 80 (69 - 82) bpm
   BP: 99/56(65) {87/47(57) - 107/65(74)} mmHg
   RR: 20 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 94.5 kg
   Height: 62 Inch
             Total In:
                                                                  3,629 mL
                                                                  2,082 mL
   PO:
             TF:
                                                                    301 mL
                                                                    341 mL
   IVF:
                                                                  2,688 mL
                                                                  1,411 mL
   Blood products:
   Total out:
                                                                  6,365 mL
                                                                  3,400 mL
   Urine:
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,736 mL
                                                                 -1,318 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress, more tired appearing
   Eyes / Conjunctiva: scleral icterus
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   8.2 g/dL
   113 K/uL
   160 mg/dL
   1.2 mg/dL
   18 mEq/L
   4.4 mEq/L
   5 mg/dL
   106 mEq/L
   136 mEq/L
   25.0 %
   14.2 K/uL
        [image002.jpg]
                            [**2169-11-7**]  03:20 AM
                            [**2169-11-7**]  03:26 PM
                            [**2169-11-7**]  03:45 PM
                            [**2169-11-7**]  10:18 PM
                            [**2169-11-8**]  04:10 AM
                            [**2169-11-8**]  04:22 AM
                            [**2169-11-8**]  09:47 AM
                            [**2169-11-8**]  04:02 PM
                            [**2169-11-8**]  10:00 PM
                            [**2169-11-9**]  03:53 AM
   WBC
   9.6
   13.2
   13.4
   14.2
   Hct
   21.8
   25.0
   27
   26.2
   24.0
   25.0
   Plt
   121
   110
   115
   113
   Cr
   4.8
   2.7
   2.1
   1.8
   1.5
   1.2
   TCO2
   23
   Glucose
   84
   139
   271
   245
   272
   [**Telephone/Fax (2) 9923**]60
   Other labs: PT / PTT / INR:24.0/46.6/2.3, ALT / AST:19/66, Alk Phos / T
   Bili:132/26.8, Lactic Acid:2.7 mmol/L, Albumin:3.4 g/dL, LDH:225 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.7 mg/dL, PO4:0.7 mg/dL
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATORENAL SYNDROME
   51 yo woman with EtOH cirrhosis admitted to MICU with persistent
   hypotension.
   1. EtOH cirrhosis: Cont lactulose and rifaxamin.
   2. Hypotension - Still remains on significant dose of levophed while on
   CVVHCont midodrine.
   3. Acute renal failure: Cont CRRT for fluid removal - pedal edema seems
   marginal better
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2169-11-9**] 07:16 AM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2169-11-6**] 06:43 PM
   Dialysis Catheter - [**2169-11-6**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 34 minutes
   Patient is critically ill

2169-11-10 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2169-11-9**] 02:00 PM
   Persistent nausea & occasional vomiting.
   Continues on pressor.
   - Hypophosphatemia: Following phos closely--per renal, pt could go into
   respiratory failure with such low levels. Re-checked PO4 at 1300, if
   it's too low renal plans to stop CVVH.
   -CXR: Stable chest findings, plate atelectasis on left base but no
   acute infiltrates and no CHF.
   -pan-cultured yesterday for leukocytosis
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Phenylephrine
   Symptomatic bra
   Last dose of Antibiotics:
   Infusions:
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2169-11-9**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-11-10**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.6
C (97.8
   HR: 82 (75 - 89) bpm
   BP: 92/55(63) {85/29(39) - 116/69(77)} mmHg
   RR: 21 (16 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 94.5 kg
   Height: 62 Inch
             Total In:
                                                                  4,807 mL
                                                                  1,042 mL
   PO:
             TF:
                                                                    609 mL
   IVF:
                                                                  3,388 mL
                                                                  1,042 mL
   Blood products:
   Total out:
                                                                  7,324 mL
                                                                  2,019 mL
   Urine:
   NG:
                                                                    400 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,517 mL
                                                                   -977 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///17/
   Physical Examination
   GEN
 nad, alert, oriented, nauseous.
   CV  - rrr, no murmurs
   PULM
 ctab
   ABD
 distended, non-tender, +bs
   EXTR
 2+ edema b/l
   SKIN
 jaundiced, scleral icterus
   Labs / Radiology
   125 K/uL
   8.3 g/dL
   192 mg/dL
   0.9 mg/dL
   17 mEq/L
   4.1 mEq/L
   4 mg/dL
   105 mEq/L
   134 mEq/L
   24.5 %
   13.8 K/uL
        [image002.jpg]
                            [**2169-11-8**]  04:10 AM
                            [**2169-11-8**]  04:22 AM
                            [**2169-11-8**]  09:47 AM
                            [**2169-11-8**]  04:02 PM
                            [**2169-11-8**]  10:00 PM
                            [**2169-11-9**]  03:53 AM
                            [**2169-11-9**]  09:57 AM
                            [**2169-11-9**]  05:20 PM
                            [**2169-11-9**]  10:15 PM
                            [**2169-11-10**]  04:01 AM
   WBC
   13.2
   13.4
   14.2
   13.8
   Hct
   26.2
   24.0
   25.0
   24.5
   Plt
   110
   115
   113
   125
   Cr
   2.7
   2.1
   1.8
   1.5
   1.2
   0.8
   0.9
   Glucose
   245
   272
   205
   [**Telephone/Fax (3) 9947**]
   191
   163
   207
   192
   Other labs: PT / PTT / INR:23.6/45.1/2.2, ALT / AST:22/80, Alk Phos / T
   Bili:142/26.7, Lactic Acid:2.7 mmol/L, Albumin:3.2 g/dL, LDH:232 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.6 mg/dL, PO4:1.6 mg/dL
   CXR: Stable chest findings, plate atelectasis on left base but no acute
   infiltrates and no CHF.
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATORENAL SYNDROME
   51 year old female with ESLD secondary to alcohol cirrhosis complicated
   by HRS requiring dialysis. Patient has been admitted in context of high
   MELD for possible transplant but has not been able to undergo testing
   [**12-26**] hypotension.
   .
   #. Hypotension: With CVP of 20, believed to be due to redistribution of
   fluids from the intravascular to extravascular compartments, as
   evidenced by hypotension and significant ascites/peripheral edema. In
   the ICU, through close BP monitoring plus pressors, hopefully can
   continue ESLD work-up without hypotension/lightheadedness being an
   obstacle.
   - Continue midodrine 15mg tid
   - Goal MAP >65; on norepinephrine [levo]. Wean today as tolerated
   (albeit given nausea/vomiting and CVVH difficult to wean).
   - f/u with hepatology and renal recs
   .
   #. End-stage liver disease: MELD score based on [**11-7**] labs = 40.
   Patient currently stable and fully oriented with no clinically symptoms
   of acute liver decompensation. Patient has been evaluated by the
   transplant team as an outpatient who recommended admission for possible
   tranplant based on elevated MELD score. s/p EGD on [**11-7**]. s/p dobhoff
   placement on [**11-7**]. Listed for transplant for kidney/liver.
   - EGD and Dobhoff done on [**11-7**]; OK to feed through Dobhoff so long as
   flowing freely.
   - Continue lactulose
   - Continue rifaximin to 400mg tid
   - Continue ciprofloxacin for SBP pxs
   - Active T & S
   - F/u hepatology recs
   - no need for transfusion today
   .
   #. Leukocytosis: Could be due to UF, but given concern for infection in
   setting of plan for transplant, looking for infectious source too.
   - follow up sputum, blood and urine (if possible) cultures
   - send C. diff test
   .
   # Hepatorenal Syndrome: Creatinine on transfer to MICU 4.2. Requires
   dialysis three times a week. Patient is candidate for dual liver-renal
   transplant and followed by Dr. [**Last Name (STitle) 9881**].
   - Continue midodrine
   - Holding sevelamer given pt
s hypophosphatemia
   - continue nephrocaps
   - s/p albumin on [**11-7**], no albumin needed as pt w. chronic renal
   insufficiency
   - f/u renal and hepatology recs
   - Epo with HD for anemia of ESRD, MWF
   - repleted phos this AM; pm lyte check and replete all lytes prn
   - continue CVVH; discuss with renal re: CVVH holiday and decreasing
   pressor requirement, given patient net >4L negative over ICU stay and
   also rather nauseous, a CVVH holiday might help her feel better
   .
   # Nausea: Perhaps due to liver disease, pressor, CVVH, medications.
   - Zofran 8mg q8h IV standing
   - Morphine 1-2mg IV q4h prn
   - Hold on ativan if possible, given ESLD
   - Restart TF
s slowly as tolerated, after nausea more controlled later
   today
   .
   # Alcohol abuse: Patient has not had a drink since [**Month (only) 93**], therefore no
   need for CIWA.
   - Continue Folic Acid, Thiamine, MVI
   .
   FEN: Renal diet. PO ok.
   - Tubefeeds per nutrition recs, slowly given nausea.
   .
   PPX:  DVT ppx with Pneumoboots; omeprazole 20mg daily; bowel regimen
   lactulose.
   .
   ACCESS: Power PICC, L IJ HD catheter.
   .
   CODE STATUS: Full code (confirmed with patient).
   .
   EMERGENCY CONTACT: [**Name (NI) **] [**Known lastname 4887**] (husband, [**Name (NI) 117**] [**Telephone/Fax (1) 9882**] (cell),
   [**Telephone/Fax (1) 9883**], [**Telephone/Fax (1) 9884**]. Was updated on [**11-4**] regarding patient's
   admission to the MICU. Was updated yesterday ([**11-9**]).
   .
   DISPOSITION: MICU until can wean off pressors. Waiting for liver/kidney
   transplant.
   ICU Care
   Lines:
   PICC Line - [**2169-11-6**] 06:43 PM
   Dialysis Catheter - [**2169-11-6**] 08:00 PM
   Code status: Full code

2169-11-10 09:44:00 Physician Attending Progress Note
Chief Complaint: Cirrhosis/Liver Failure, Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Significant nausea and vomiting this AM
   levophed continues at 0.2
   24 Hour Events:
 BLOOD CULTURED - At [**2169-11-9**] 02:00 PM
   2.5 L off yesterday
   History obtained from [**Hospital 31**] Medical records, icu team
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Phenylephrine
   Symptomatic bra
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.2 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Morphine Sulfate - [**2169-11-10**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Gastrointestinal: Nausea
   Genitourinary: Dialysis
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2169-11-10**] 09:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.7
C (98.1
   HR: 88 (75 - 89) bpm
   BP: 104/53(66) {85/29(39) - 116/69(77)} mmHg
   RR: 17 (16 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 94.5 kg
   Height: 62 Inch
             Total In:
                                                                  4,807 mL
                                                                  1,705 mL
   PO:
             TF:
                                                                    609 mL
   IVF:
                                                                  3,388 mL
                                                                  1,640 mL
   Blood products:
   Total out:
                                                                  7,324 mL
                                                                  2,417 mL
   Urine:
   NG:
                                                                    400 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,517 mL
                                                                   -712 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///17/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   8.3 g/dL
   125 K/uL
   192 mg/dL
   0.9 mg/dL
   17 mEq/L
   4.1 mEq/L
   4 mg/dL
   105 mEq/L
   134 mEq/L
   24.5 %
   13.8 K/uL
        [image002.jpg]
                            [**2169-11-8**]  04:10 AM
                            [**2169-11-8**]  04:22 AM
                            [**2169-11-8**]  09:47 AM
                            [**2169-11-8**]  04:02 PM
                            [**2169-11-8**]  10:00 PM
                            [**2169-11-9**]  03:53 AM
                            [**2169-11-9**]  09:57 AM
                            [**2169-11-9**]  05:20 PM
                            [**2169-11-9**]  10:15 PM
                            [**2169-11-10**]  04:01 AM
   WBC
   13.2
   13.4
   14.2
   13.8
   Hct
   26.2
   24.0
   25.0
   24.5
   Plt
   110
   115
   113
   125
   Cr
   2.7
   2.1
   1.8
   1.5
   1.2
   0.8
   0.9
   Glucose
   245
   272
   205
   [**Telephone/Fax (3) 9947**]
   191
   163
   207
   192
   Other labs: PT / PTT / INR:23.6/45.1/2.2, ALT / AST:22/80, Alk Phos / T
   Bili:142/26.7, Lactic Acid:2.7 mmol/L, Albumin:3.2 g/dL, LDH:232 IU/L,
   Ca++:8.8 mg/dL, Mg++:2.6 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATORENAL SYNDROME
   51 yo woman with EtOH cirrhosis admitted to MICU with persistent
   hypotension.
   1. EtOH cirrhosis: Cont lactulose and rifaxamin.
   2. Hypotension - On CVVH - has had about 5L off since initiating.  Will
   discuss with renal and hepatology teams possibility of [**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] given
   significant n/v - will allow us to decrease levophed.
   3. Acute renal failure: CRRT for fluid removal - pedal edema seems
   marginal better
   4. Nausea: Will increase Zofran to standing 8mg q8 hrs.  Morphine prn
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2169-11-6**] 06:43 PM
   Dialysis Catheter - [**2169-11-6**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2169-11-11 07:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Will hold CVVH if filter clots, given patient's significant
   discomfort (very nauseated); pt is > 6L negative. Although think volume
   loss is contributing to difficulty weaning pt off of levophed.
   - Improved nausea today on standing Zofran.
   - Suspect pt's low electrolyte levels (especially phos) due to pt's
   malnutrition and re-feeding syndrome.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Phenylephrine
   Symptomatic bra
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.2 mcg/Kg/min
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Morphine Sulfate - [**2169-11-10**] 04:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-11-11**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.7
C (96.3
   HR: 66 (66 - 90) bpm
   BP: 104/64(73) {82/42(53) - 104/65(130)} mmHg
   RR: 16 (13 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 94.5 kg
   Height: 62 Inch
             Total In:
                                                                  4,227 mL
                                                                  1,345 mL
   PO:
             TF:
   IVF:
                                                                  3,847 mL
                                                                  1,245 mL
   Blood products:
   Total out:
                                                                  7,371 mL
                                                                  1,482 mL
   Urine:
   NG:
                                                                    600 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,144 mL
                                                                   -137 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///17/
   Physical Examination
   General Appearance: GEN
 nad, alert, oriented, nauseous.
   CV  - rrr, no murmurs
   PULM
 ctab
   ABD
 distended, non-tender, +bs
   EXTR
 2+ edema b/l
   SKIN
 jaundiced, scleral icterus
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   134 K/uL
   8.8 g/dL
   188 mg/dL
   1.0 mg/dL
   17 mEq/L
   4.6 mEq/L
   4 mg/dL
   105 mEq/L
   135 mEq/L
   26.7 %
   16.3 K/uL
        [image002.jpg]
                            [**2169-11-9**]  03:53 AM
                            [**2169-11-9**]  09:57 AM
                            [**2169-11-9**]  05:20 PM
                            [**2169-11-9**]  10:15 PM
                            [**2169-11-10**]  04:01 AM
                            [**2169-11-10**]  09:28 AM
                            [**2169-11-10**]  01:35 PM
                            [**2169-11-10**]  04:00 PM
                            [**2169-11-10**]  09:58 PM
                            [**2169-11-11**]  04:11 AM
   WBC
   14.2
   13.8
   16.3
   Hct
   25.0
   24.5
   26.7
   Plt
   113
   125
   134
   Cr
   1.2
   0.8
   0.9
   1.0
   0.6
   1.0
   Glucose
   160
   191
   163
   [**Telephone/Fax (3) 9964**]
   144
   155
   174
   188
   Other labs: PT / PTT / INR:25.3/43.0/2.4, ALT / AST:21/85, Alk Phos / T
   Bili:146/25.8, Amylase / Lipase:/62, Lactic Acid:2.7 mmol/L,
   Albumin:3.2 g/dL, LDH:226 IU/L, Ca++:8.7 mg/dL, Mg++:2.6 mg/dL, PO4:3.5
   mg/dL
   Microbiology: [**11-10**] C. diff neg
   [**11-9**] bcx ntd
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATORENAL SYNDROME
   51 year old female with ESLD secondary to alcohol cirrhosis complicated
   by HRS requiring dialysis. Patient has been admitted in context of high
   MELD for possible transplant but has not been able to undergo testing
   [**12-26**] hypotension.
   .
   #. Hypotension: With CVP of 20, believed to be due to redistribution of
   fluids from the intravascular to extravascular compartments, as
   evidenced by hypotension and significant ascites/peripheral edema. In
   the ICU, through close BP monitoring plus pressors, hopefully can
   continue ESLD work-up without hypotension/lightheadedness being an
   obstacle.
   - Continue midodrine 15mg tid
   - Goal MAP >65; on norepinephrine [levo]. Wean today as tolerated
   (albeit given nausea/vomiting and CVVH difficult to wean).
   - f/u with hepatology and renal recs
   .
   #. End-stage liver disease: MELD score based on [**11-7**] labs = 40.
   Patient currently stable and fully oriented with no clinically symptoms
   of acute liver decompensation. Patient has been evaluated by the
   transplant team as an outpatient who recommended admission for possible
   tranplant based on elevated MELD score. s/p EGD on [**11-7**]. s/p dobhoff
   placement on [**11-7**]. Listed for transplant for kidney/liver.
   - EGD and Dobhoff done on [**11-7**]; OK to feed through Dobhoff so long as
   flowing freely.
   - Continue lactulose
   - Continue rifaximin to 400mg tid
   - Continue ciprofloxacin for SBP pxs
   - Active T & S
   - F/u hepatology recs
   - no need for transfusion today
   .
   #. Leukocytosis: Could be due to UF, but given concern for infection in
   setting of plan for transplant, looking for infectious source too.
   - follow up sputum, blood and urine (if possible) cultures
   - C. diff negative
   .
   # Hepatorenal Syndrome: Creatinine on transfer to MICU 4.2. Requires
   dialysis three times a week. Patient is candidate for dual liver-renal
   transplant and followed by Dr. [**Last Name (STitle) 9881**].
   - Continue midodrine
   - Holding sevelamer given pt
s hypophosphatemia
   - continue nephrocaps
   - s/p albumin on [**11-7**], no albumin needed as pt w. chronic renal
   insufficiency
   - f/u renal and hepatology recs
   - Epo with HD for anemia of ESRD, MWF
   - Repleted phos this AM; pm lyte check and replete all lytes prn
   - continue CVVH; discuss with renal re: CVVH holiday and decreasing
   pressor requirement, given patient net >4L negative over ICU stay and
   also rather nauseous, a CVVH holiday might help her feel better
   .
   # Nausea: Perhaps due to liver disease, pressor, CVVH, medications.
   - Zofran 8mg q8h IV standing
   - Morphine 1-2mg IV q4h prn
   - Hold on ativan if possible, given ESLD
   - Restart TF
s slowly as tolerated, after nausea more controlled later
   today
   .
   # Alcohol abuse: Patient has not had a drink since [**Month (only) 93**], therefore no
   need for CIWA.
   - Continue Folic Acid, Thiamine, MVI
   .
   FEN: Renal diet. PO ok.
   - Tubefeeds per nutrition recs, slowly given nausea.
   .
   PPX:  DVT ppx with Pneumoboots; omeprazole 20mg daily; bowel regimen
   lactulose.
   .
   ACCESS: Power PICC, L IJ HD catheter.
   .
   CODE STATUS: Full code (confirmed with patient).
   .
   EMERGENCY CONTACT: [**Name (NI) **] [**Known lastname 4887**] (husband, [**Name (NI) 117**] [**Telephone/Fax (1) 9882**] (cell),
   [**Telephone/Fax (1) 9883**], [**Telephone/Fax (1) 9884**]. Was updated on [**11-4**] regarding patient's
   admission to the MICU. Was updated yesterday ([**11-9**]).
   .
   DISPOSITION: MICU until can wean off pressors. Waiting for liver/kidney
   transplant.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2169-11-6**] 06:43 PM
   Dialysis Catheter - [**2169-11-6**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2169-11-11 10:29:00 Physician Attending Progress Note
Chief Complaint: HOTN
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo women with ETOH cirrhosis, ESLD, worsening renal failure, HOTN on
   levophed.  Has been getting CVVH for fluid overload.
   24 Hour Events:
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Phenylephrine
   Symptomatic bra
   Last dose of Antibiotics:
   Infusions:
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Norepinephrine - 0.17 mcg/Kg/min
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Morphine Sulfate - [**2169-11-11**] 08:25 AM
   Other medications:
   folate
   nephrocaps
   thiamine
   rifaxamin
   lactulose
   MVI
   prevacid
   SSI
   vitamin D
   midodrine
   cipro
   EPO
   zofran
   neutraphos
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-11-11**] 10:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.5
C (97.7
   HR: 77 (64 - 90) bpm
   BP: 103/59(69) {82/42(53) - 105/71(130)} mmHg
   RR: 15 (13 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 94.5 kg
   Height: 62 Inch
             Total In:
                                                                  4,227 mL
                                                                  1,844 mL
   PO:
             TF:
   IVF:
                                                                  3,847 mL
                                                                  1,589 mL
   Blood products:
   Total out:
                                                                  7,371 mL
                                                                  1,986 mL
   Urine:
   NG:
                                                                    600 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,144 mL
                                                                   -142 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///17/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   134 K/uL
   188 mg/dL
   1.0 mg/dL
   17 mEq/L
   4.6 mEq/L
   4 mg/dL
   105 mEq/L
   135 mEq/L
   26.7 %
   16.3 K/uL
        [image002.jpg]
                            [**2169-11-9**]  03:53 AM
                            [**2169-11-9**]  09:57 AM
                            [**2169-11-9**]  05:20 PM
                            [**2169-11-9**]  10:15 PM
                            [**2169-11-10**]  04:01 AM
                            [**2169-11-10**]  09:28 AM
                            [**2169-11-10**]  01:35 PM
                            [**2169-11-10**]  04:00 PM
                            [**2169-11-10**]  09:58 PM
                            [**2169-11-11**]  04:11 AM
   WBC
   14.2
   13.8
   16.3
   Hct
   25.0
   24.5
   26.7
   Plt
   113
   125
   134
   Cr
   1.2
   0.8
   0.9
   1.0
   0.6
   1.0
   Glucose
   160
   191
   163
   [**Telephone/Fax (3) 9964**]
   144
   155
   174
   188
   Other labs: PT / PTT / INR:25.3/43.0/2.4, ALT / AST:21/85, Alk Phos / T
   Bili:146/25.8, Amylase / Lipase:/62, Lactic Acid:2.7 mmol/L,
   Albumin:3.2 g/dL, LDH:226 IU/L, Ca++:8.7 mg/dL, Mg++:2.6 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATORENAL SYNDROME
   HOTN:  On midodrine and levophed.
   cirrhosis:  on transplant list.  Continue lactulose, rifaxamin
   leukocytosis:  complaining of some abdominal pain today.  Will discuss
   with liver about tap.
   morphine for pain.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2169-11-6**] 06:43 PM
   Dialysis Catheter - [**2169-11-6**] 08:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2169-11-12 07:58:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2169-11-11**] 01:12 PM
   obtained from picc line/sent w/fungal isolator tube
 BLOOD CULTURED - At [**2169-11-11**] 03:45 PM
   obtained from quinton catheter
 ULTRASOUND - At [**2169-11-11**] 05:30 PM
 PARACENTESIS - At [**2169-11-11**] 06:17 PM
   - Increased lactulose
   - Nauseous; vomited bile repeatedly
   - Liver wanted ID consulted for ?SBP and leukocytosis, pan-cultured. On
   top of transplant list, do not want leukocytosis/infection to hold up
   transplant.
   - ID recs:  Vanc/Zosyn, Paracentesis, cultures off peripherals and HD
   line
   - Renal recs:  no new
   - KUB for dobhoff placement given continued nausea, not able to
   tolerate tube feeds, and previously coiled dobhoff.  KUB poor quality,
   but did not show gross abnormality.
   - U/S to mark for paracentesis, diagnostic paracentesis performed;
   negative for SBP
   - CVVH stopped because machine malfunctioned
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Phenylephrine
   Symptomatic bra
   Last dose of Antibiotics:
   Vancomycin - [**2169-11-11**] 05:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-11-12**] 12:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2169-11-11**] 06:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-11-12**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 82 (71 - 95) bpm
   BP: 92/50(59) {84/37(56) - 105/71(77)} mmHg
   RR: 18 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 94.5 kg
   Height: 62 Inch
             Total In:
                                                                  3,717 mL
                                                                    777 mL
   PO:
             TF:
   IVF:
                                                                  3,312 mL
                                                                    777 mL
   Blood products:
   Total out:
                                                                  6,454 mL
                                                                  1,077 mL
   Urine:
   NG:
                                                                  1,840 mL
                                                                    360 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,737 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///16/
   Physical Examination
   GEN
 NAD. Belching repeatedly. Slow to respond, but alert oriented and
   appropriate. Denies pain or sob. Endorses nausea.
   CV
 rrr, no murmurs
   PULM - ctab
   ABD
 distended, ttp diffusely, tympanitic to percussion except at LUQ,
   sparse bowel sounds
   EXTR
 edema b/l pedal 2+
   SKIN
 jaundiced without change.
   Labs / Radiology
   150 K/uL
   9.4 g/dL
   120 mg/dL
   0.5 mg/dL
   16 mEq/L
   4.3 mEq/L
   7 mg/dL
   105 mEq/L
   136 mEq/L
   27.1 %
   15.2 K/uL
        [image002.jpg]
                            [**2169-11-10**]  04:01 AM
                            [**2169-11-10**]  09:28 AM
                            [**2169-11-10**]  01:35 PM
                            [**2169-11-10**]  04:00 PM
                            [**2169-11-10**]  09:58 PM
                            [**2169-11-11**]  04:11 AM
                            [**2169-11-11**]  09:45 AM
                            [**2169-11-11**]  03:50 PM
                            [**2169-11-11**]  09:43 PM
                            [**2169-11-12**]  04:09 AM
   WBC
   13.8
   16.3
   15.2
   Hct
   24.5
   26.7
   27.1
   Plt
   125
   134
   150
   Cr
   0.9
   1.0
   0.6
   1.0
   1.0
   0.9
   0.5
   Glucose
   192
   121
   144
   155
   174
   188
   129
   137
   194
   120
   Other labs: PT / PTT / INR:28.0/44.9/2.8, ALT / AST:26/101, Alk Phos /
   T Bili:153/25.2, Amylase / Lipase:/62, Lactic Acid:1.6 mmol/L,
   Albumin:3.3 g/dL, LDH:282 IU/L, Ca++:9.0 mg/dL, Mg++:2.7 mg/dL, PO4:2.3
   mg/dL
   LFT
s all approximately stable
   C.diff negative [**11-10**]
   Para WBC: 220 (need >250 for SBP)
   Blood and para cultures pending
   [**11-11**] abdominal x-ray wetread:
   Enteric tube extends to stomach, tip is beyond inferior aspect of the
   image.
   Central venous catheter in right atrium. Catheter courses over left
   axilla
   and terminates overlying mediastinum, tip not well seen; difficult to
   determine whether this could be external to patient. Motion artifact
   limits
   evaluation of lung. Streaky retrocardiac opaty likely atelectasis.
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATORENAL SYNDROME
   .
   51 year old female with ESLD secondary to alcohol cirrhosis complicated
   by HRS requiring dialysis. Patient has been admitted in context of high
   MELD for possible transplant but has not been able to undergo testing
   [**12-26**] hypotension.
   .
   #. Hypotension: With CVP of 20, believed to be due to redistribution of
   fluids from the intravascular to extravascular compartments, as
   evidenced by hypotension and significant ascites/peripheral edema. In
   the ICU, through close BP monitoring plus pressors, hopefully can
   continue ESLD work-up without hypotension/lightheadedness being an
   obstacle.
   - Continue midodrine 15mg tid
   - Goal MAP >65; on norepinephrine [levo]. Wean today as tolerated.
   - 50g albumin today
   - 1L NS today over 2 hours as concern continued hypotension, and
   inability to wean pressor, is due to over-diuresis
   - check PM CVP s/p 1L bolus
   - f/u with hepatology and renal recs
   - hold on CVVH
   .
   #. End-stage liver disease: MELD score based on [**11-7**] labs = 40.
   Patient currently stable and fully oriented with no clinically symptoms
   of acute liver decompensation. Patient has been evaluated by the
   transplant team as an outpatient who recommended admission for possible
   tranplant based on elevated MELD score. s/p EGD on [**11-7**]. s/p dobhoff
   placement on [**11-7**]. Listed for transplant for kidney/liver.  MELD [**11-11**]
   = 42.
   - EGD and Dobhoff done on [**11-7**]; OK to feed through Dobhoff so long as
   flowing freely.
   - Continue lactulose
   - Continue rifaximin to 400mg tid
   - 50g albumin today
   - Since patient on broad-spectrum antibiotics, d/c cipro for SBP
   prophylaxis and then after 7-day course of broad-spectrum antibiotics
   ends, plan to restart cipro
   - Active T & S
   - F/u hepatology recs, transplant recs
   - no need for transfusion today
   .
   #. Leukocytosis: Could be due to UF, but given concern for infection in
   setting of plan for transplant, looking for infectious source too.  C.
   diff negative.  Possible SBP given leukocytosis and tender abdomen, but
   no fever or evidence of SBP.
   - follow up cultures (blood, paracentesis)
   - vanc, zosyn, (started [**11-11**]) per ID
 7 day course of broad-spectrum
   antibiotics
   - check vanco trough
   .
   # Renal Failure: Creatinine on transfer to MICU 4.2. Requires dialysis
   three times a week. Patient is candidate for dual liver-renal
   transplant and followed by Dr. [**Last Name (STitle) 9881**].
   - Holding sevelamer given pt
s hypophosphatemia
   - continue nephrocaps
   - f/u renal recs
   - Epo with HD for anemia of ESRD, MWF
   - Hold on CVVH; concern for over-diuresis as etiology of nausea and
   continued hypotension
   .
   # Nausea: Perhaps due to liver disease, pressor, CVVH, medications.
   - Zofran 8mg q8h IV standing
   - Morphine 0.5-1mg IV q4h prn
   - Hold on ativan if possible, given ESLD
   - Not tolerating tubefeeds, hold them
   .
   # Alcohol abuse: Patient has not had a drink since [**Month (only) 93**], therefore no
   need for CIWA.
   - Continue Folic Acid, Thiamine, MVI
   .
   FEN: Dobhoff in place. PO ok as tolerated.
   - Hold on tubefeeds given nausea.
   - place peripheral IV and then plan to start PPN
   .
   PPX:  DVT ppx with Pneumoboots; omeprazole 20mg daily; bowel regimen
   lactulose.
   .
   ACCESS: Power PICC, R IJ HD catheter.
   .
   CODE STATUS: Full code (confirmed with patient).
   .
   EMERGENCY CONTACT: [**Name (NI) **] [**Known lastname 4887**] (husband, [**Name (NI) 117**] [**Telephone/Fax (1) 9882**] (cell),
   [**Telephone/Fax (1) 9883**], [**Telephone/Fax (1) 9884**]. Was updated on [**11-4**] regarding patient's
   admission to the MICU. Was updated on [**11-9**].
   .
   DISPOSITION: MICU until can wean off pressors. Waiting for liver/kidney
   transplant.
   ICU Care
   Lines:
   PICC Line - [**2169-11-6**] 06:43 PM
   Dialysis Catheter - [**2169-11-6**] 08:00 PM
   Code status: Full code

2169-11-12 10:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51  yo woman ETOH  cirrhosis, with renal failure on CVVH.
   24 Hour Events:
 BLOOD CULTURED - At [**2169-11-11**] 01:12 PM
   obtained from picc line/sent w/fungal isolator tube
 BLOOD CULTURED - At [**2169-11-11**] 03:45 PM
   obtained from quinton catheter
 ULTRASOUND - At [**2169-11-11**] 05:30 PM
 PARACENTESIS - At [**2169-11-11**] 06:17 PM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Phenylephrine
   Symptomatic bra
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2169-11-12**] 08:00 AM
   Vancomycin - [**2169-11-12**] 08:30 AM
   Infusions:
   Norepinephrine - 0.14 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2169-11-11**] 06:30 PM
   Other medications:
   MIV
   prevacid
   SSI
   vitamin D
   cipro
   EPO
   zofran
   lactulose
   reglan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-11-12**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.5
C (97.7
   HR: 84 (71 - 95) bpm
   BP: 95/56(63) {84/37(56) - 104/68(76)} mmHg
   RR: 18 (11 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 94.5 kg
   Height: 62 Inch
             Total In:
                                                                  3,717 mL
                                                                  1,331 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                  3,312 mL
                                                                  1,131 mL
   Blood products:
   Total out:
                                                                  6,454 mL
                                                                  1,587 mL
   Urine:
   NG:
                                                                  1,840 mL
                                                                    870 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,737 mL
                                                                   -256 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///16/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   150 K/uL
   120 mg/dL
   0.5 mg/dL
   16 mEq/L
   4.3 mEq/L
   7 mg/dL
   105 mEq/L
   136 mEq/L
   27.1 %
   15.2 K/uL
        [image002.jpg]
                            [**2169-11-10**]  04:01 AM
                            [**2169-11-10**]  09:28 AM
                            [**2169-11-10**]  01:35 PM
                            [**2169-11-10**]  04:00 PM
                            [**2169-11-10**]  09:58 PM
                            [**2169-11-11**]  04:11 AM
                            [**2169-11-11**]  09:45 AM
                            [**2169-11-11**]  03:50 PM
                            [**2169-11-11**]  09:43 PM
                            [**2169-11-12**]  04:09 AM
   WBC
   13.8
   16.3
   15.2
   Hct
   24.5
   26.7
   27.1
   Plt
   125
   134
   150
   Cr
   0.9
   1.0
   0.6
   1.0
   1.0
   0.9
   0.5
   Glucose
   192
   121
   144
   155
   174
   188
   129
   137
   194
   120
   Other labs: PT / PTT / INR:28.0/44.9/2.8, ALT / AST:26/101, Alk Phos /
   T Bili:153/25.2, Amylase / Lipase:/62, Lactic Acid:1.6 mmol/L,
   Albumin:3.3 g/dL, LDH:282 IU/L, Ca++:9.0 mg/dL, Mg++:2.7 mg/dL, PO4:2.3
   mg/dL
   Fluid analysis / Other labs: peritoneal fluid:  220WBC, 2% polys
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATORENAL SYNDROME
   HOTN:  Likely has had too much fluid taken off.  Will give some back.
   Will give some IVF and albumin to try and improve her BP.
   Leukocytosis:  Unclear if she is actually infected, but reasonable to
   do 7 day course.
   Will see if we can place a peripheral IV for antibiotics so TPN can be
   started.
   Cirrhosis:  continue lactulose, MS is stable
   ESRD:  off CVVH for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2169-11-6**] 06:43 PM
   Dialysis Catheter - [**2169-11-6**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2169-11-13 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ESLD, ESRD on HD, hypotension
   24 Hour Events:
 STOOL CULTURE - At [**2169-11-12**] 01:51 PM
   c. diff
   - hold CVVH, gave fluids (NS) and albumin to help pressure - successful
   = weaned off levo a bit (day [**12-27**])
   - PIV placed & started PPN d/t persistent nausea, holding TF's
   - vanco trough for tomorrow AM
   - ?use for an a-line
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Phenylephrine
   Symptomatic bra
   Last dose of Antibiotics:
   Vancomycin - [**2169-11-12**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2169-11-13**] 12:22 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2169-11-13**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.6
   HR: 70 (66 - 89) bpm
   BP: 104/48(61) {82/18(36) - 107/64(72)} mmHg
   RR: 18 (14 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 94.5 kg
   Height: 62 Inch
             Total In:
                                                                  3,991 mL
                                                                  1,450 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  3,108 mL
                                                                  1,174 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                  3,837 mL
                                                                    140 mL
   Urine:
   NG:
                                                                  3,120 mL
                                                                    140 mL
   Stool:
   Drains:
   Balance:
                                                                    154 mL
                                                                  1,310 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///15/
   Physical Examination
   GEN
 NAD,
   CV
 RRR, no murmurs
   PULM - CTA +SEM
   ABD
 distended, soft, non-tender
   EXTR
 edema b/l pedal 2+
   SKIN
 jaundiced without change.
   Labs / Radiology
   175 K/uL
   8.2 g/dL
   170 mg/dL
   2.1 mg/dL
   15 mEq/L
   3.8 mEq/L
   20 mg/dL
   105 mEq/L
   135 mEq/L
   24.4 %
   20.1 K/uL
        [image002.jpg]
                            [**2169-11-10**]  09:28 AM
                            [**2169-11-10**]  01:35 PM
                            [**2169-11-10**]  04:00 PM
                            [**2169-11-10**]  09:58 PM
                            [**2169-11-11**]  04:11 AM
                            [**2169-11-11**]  09:45 AM
                            [**2169-11-11**]  03:50 PM
                            [**2169-11-11**]  09:43 PM
                            [**2169-11-12**]  04:09 AM
                            [**2169-11-13**]  03:09 AM
   WBC
   16.3
   15.2
   20.1
   Hct
   26.7
   27.1
   24.4
   Plt
   134
   150
   175
   Cr
   1.0
   0.6
   1.0
   1.0
   0.9
   0.5
   2.1
   Glucose
   121
   144
   155
   174
   188
   129
   137
   194
   120
   170
   Other labs: PT / PTT / INR:32.1/49.0/3.2, ALT / AST:24/82, Alk Phos / T
   Bili:118/21.9, Amylase / Lipase:/62, Lactic Acid:1.6 mmol/L,
   Albumin:3.3 g/dL, LDH:210 IU/L, Ca++:8.9 mg/dL, Mg++:2.6 mg/dL, PO4:3.3
   mg/dL
   Imaging: None new
   Microbiology: [**11-12**] C. diff - neg
   [**11-11**] peritoneal fluid - (Preliminary):    NO GROWTH.
   [**11-9**] and [**11-11**] B cxrs pending
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATORENAL SYNDROME
   51 year old female with ESLD secondary to alcohol cirrhosis complicated
   by HRS requiring dialysis. Patient has been admitted in context of high
   MELD for possible transplant but has not been able to undergo testing
   [**12-26**] hypotension.
   .
   #. Hypotension: With CVP of 20, believed to be due to redistribution of
   fluids from the intravascular to extravascular compartments, as
   evidenced by hypotension and significant ascites/peripheral edema. In
   the ICU, through close BP monitoring plus pressors, hopefully can
   continue ESLD work-up without hypotension/lightheadedness being an
   obstacle. Pt completed EGD and dobhoff placement.  Now she is being
   weaned off pressors gradually, while undergoing CVVH.
   - Continue midodrine 15mg tid
   - Goal MAP >60; on norepinephrine [levo]. Wean today as tolerated.
   - 50g albumin today (day [**12-27**] on [**11-13**])
   - f/u with hepatology and renal recs
   - hold on CVVH for now
   - transfuse 1U PRBCs today
   .
   #. End-stage liver disease: Patient currently stable and fully oriented
   with no clinically symptoms of acute liver decompensation. Patient has
   been evaluated by the transplant team as an outpatient who recommended
   admission for possible tranplant based on elevated MELD score. s/p EGD
   on [**11-7**]. s/p dobhoff placement on [**11-7**]. Listed for transplant for
   kidney/liver.  MELD [**11-7**] 40, [**11-11**] = 42.
   - EGD and Dobhoff done on [**11-7**].
   - Continue lactulose
   - Continue rifaximin to 400mg tid
   - 50g albumin today (day [**12-27**] on [**11-13**])
   - Since patient on broad-spectrum antibiotics, d/c cipro for SBP
   prophylaxis and then after 7-day course of broad-spectrum antibiotics
   ends, plan to restart cipro
   - Active T & S
   - F/u hepatology recs, transplant recs
   - transfuse 1U PRBCs today
   .
   #. Leukocytosis: Could be due to UF, but given concern for infection in
   setting of plan for transplant, looking for infectious source too.  C.
   diff negative.  Possible SBP given leukocytosis and tender abdomen, but
   no fever or evidence of SBP.
   - follow up cultures (blood, paracentesis)
   - vanc, zosyn, (started [**11-11**]) per ID
 7 day course of broad-spectrum
   antibiotics
   - check vanco trough
   - repeat C. diff today
   - add PO flagyl for empiric C. Diff (day 1 [**11-13**])
   - add Micafungin 100 mg IV Q24H  for empiric fungal coverage(day 1
   [**11-13**])
   .
   # Renal Failure: Creatinine on transfer to MICU 4.2. Requires dialysis
   three times a week. Patient is candidate for dual liver-renal
   transplant and followed by Dr. [**Last Name (STitle) 9881**].
   - Holding sevelamer given pt
s hypophosphatemia
   - continue nephrocaps
   - f/u renal recs
   - Epo with HD for anemia of ESRD, MWF
   - Hold on CVVH; concern for over-diuresis as etiology of nausea and
   continued hypotension
   .
   # Nausea: Perhaps due to liver disease, pressors, CVVH, medications.
   - Zofran 8mg q8h IV standing
   - Morphine 0.5-1mg IV q4h prn
   - Hold on ativan if possible, given ESLD
   - Not tolerating tubefeeds, hold them
   .
   # Alcohol abuse: Patient has not had a drink since [**Month (only) 93**], therefore no
   need for CIWA.
   - Continue Folic Acid, Thiamine, MVI
   .
   FEN: Dobhoff in place. PO ok as tolerated.
   - Hold on tubefeeds given nausea.
   - placed peripheral IV and started PPN yesterday
   .
   PPX:  DVT ppx with Pneumoboots; omeprazole 20mg daily; bowel regimen
   lactulose.
   .
   ACCESS: Power PICC, R IJ HD catheter.
   .
   CODE STATUS: Full code (confirmed with patient).
   .
   EMERGENCY CONTACT: [**Name (NI) **] [**Known lastname 4887**] (husband, [**Name (NI) 117**] [**Telephone/Fax (1) 9882**] (cell),
   [**Telephone/Fax (1) 9883**], [**Telephone/Fax (1) 9884**].
   .
   DISPOSITION: MICU until weaned off pressors. Listed for liver/kidney
   transplant.

2169-11-13 10:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo women with ETOH cirrhosis, acute renal failure.  Had been on CVVH
   and on levophed.  Have held CVVH and started weaning levophed with
   fluid repletion.
   24 Hour Events:
 STOOL CULTURE - At [**2169-11-12**] 01:51 PM
   c. diff
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Phenylephrine
   Symptomatic bra
   Last dose of Antibiotics:
   Vancomycin - [**2169-11-12**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2169-11-13**] 08:00 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2169-11-13**] 08:15 AM
   Other medications:
   folate
   thiamine
   rifaxamin
   vitamin D
   midodrine
   epo
   zofran
   lactulose
   vanco
   reglan
   albumin
   zosyn
   heparin
   sennakot
   citrate
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-11-13**] 10:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 73 (66 - 87) bpm
   BP: 95/54(63) {82/18(36) - 107/64(72)} mmHg
   RR: 15 (15 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 94.5 kg
   Height: 62 Inch
           Total In:
                                                                  3,991 mL
                                                                  2,340 mL
   PO:
                                                                    240 mL
           TF:
   IVF:
                                                                  3,108 mL
                                                                  1,782 mL
   Blood products:
                                                                    200 mL
                                                                     48 mL
   Total out:
                                                                  3,837 mL
                                                                    370 mL
   Urine:
   NG:
                                                                  3,120 mL
                                                                    370 mL
   Stool:
   Drains:
   Balance:
                                                                    154 mL
                                                                  1,970 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///15/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: No(t) Unable to stand
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.2 g/dL
   175 K/uL
   170 mg/dL
   2.1 mg/dL
   15 mEq/L
   3.8 mEq/L
   20 mg/dL
   105 mEq/L
   135 mEq/L
   24.4 %
   20.1 K/uL
        [image002.jpg]
                            [**2169-11-10**]  09:28 AM
                            [**2169-11-10**]  01:35 PM
                            [**2169-11-10**]  04:00 PM
                            [**2169-11-10**]  09:58 PM
                            [**2169-11-11**]  04:11 AM
                            [**2169-11-11**]  09:45 AM
                            [**2169-11-11**]  03:50 PM
                            [**2169-11-11**]  09:43 PM
                            [**2169-11-12**]  04:09 AM
                            [**2169-11-13**]  03:09 AM
   WBC
   16.3
   15.2
   20.1
   Hct
   26.7
   27.1
   24.4
   Plt
   134
   150
   175
   Cr
   1.0
   0.6
   1.0
   1.0
   0.9
   0.5
   2.1
   Glucose
   121
   144
   155
   174
   188
   129
   137
   194
   120
   170
   Other labs: PT / PTT / INR:32.1/49.0/3.2, ALT / AST:24/82, Alk Phos / T
   Bili:118/21.9, Amylase / Lipase:/62, Lactic Acid:1.6 mmol/L,
   Albumin:3.3 g/dL, LDH:210 IU/L, Ca++:8.9 mg/dL, Mg++:2.6 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATORENAL SYNDROME
   HOTN:  improved with IVF and albumin.  Levophed has come down to.
   Transfuse 1U
   Cirrhosis:  on lactulose and rifamixin
   leukocytosis:  can add flagyl. for empiric C. diff treatment.
   renal failure:  holdind CVVH
   nause and vomitting:  improved.  [**Month (only) 11**] have been related to CVVH.
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2169-11-12**] 05:35 PM 41 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2169-11-6**] 06:43 PM
   Dialysis Catheter - [**2169-11-6**] 08:00 PM
   20 Gauge - [**2169-11-12**] 11:11 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2169-11-14 07:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - weaned pressors down to 0.03 with transfusion of PRBCs x 1U and
   albumin, but had to go back up to 0.08 overnight
   - attempted to place A. line (x 3) for more accurate measurement of BP
   but was unable to thread the catheter
   - Nausea improved
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Phenylephrine
   Symptomatic bra
   Last dose of Antibiotics:
   Vancomycin - [**2169-11-12**] 08:30 AM
   Micafungin - [**2169-11-13**] 05:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-11-13**] 11:57 PM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2169-11-13**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-11-14**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 71 (57 - 87) bpm
   BP: 97/50(60) {87/39(51) - 106/64(71)} mmHg
   RR: 15 (15 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 94.5 kg
   Height: 62 Inch
             Total In:
                                                                  4,067 mL
                                                                    439 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  2,133 mL
                                                                    123 mL
   Blood products:
                                                                    550 mL
   Total out:
                                                                    370 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    370 mL
   Stool:
   Drains:
   Balance:
                                                                  3,697 mL
                                                                    439 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///12/
   Physical Examination
   GEN
 Interactive, NAD
   CV
 RRR, no murmurs
   PULM - CTAB
   ABD
 distended, soft, non-tender, +BS
   EXTR
 edema b/l pedal 2+
   SKIN
 jaundiced
   Labs / Radiology
   148 K/uL
   8.9 g/dL
   143 mg/dL
   3.6 mg/dL
   12 mEq/L
   3.7 mEq/L
   33 mg/dL
   100 mEq/L
   129 mEq/L
   26.5 %
   18.1 K/uL
        [image002.jpg]
                            [**2169-11-10**]  04:00 PM
                            [**2169-11-10**]  09:58 PM
                            [**2169-11-11**]  04:11 AM
                            [**2169-11-11**]  09:45 AM
                            [**2169-11-11**]  03:50 PM
                            [**2169-11-11**]  09:43 PM
                            [**2169-11-12**]  04:09 AM
                            [**2169-11-13**]  03:09 AM
                            [**2169-11-13**]  06:30 PM
                            [**2169-11-14**]  04:16 AM
   WBC
   16.3
   15.2
   20.1
   18.1
   Hct
   26.7
   27.1
   24.4
   25.7
   26.5
   Plt
   134
   150
   175
   148
   Cr
   1.0
   1.0
   0.9
   0.5
   2.1
   3.6
   Glucose
   155
   174
   188
   129
   137
   194
   120
   170
   143
   Other labs: PT / PTT / INR:28.7/51.0/2.8, ALT / AST:21/77, Alk Phos / T
   Bili:101/21.2, Amylase / Lipase:/62, Lactic Acid:1.6 mmol/L,
   Albumin:3.5 g/dL, LDH:183 IU/L, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.2
   mg/dL
   [**11-12**] C. diff neg
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATORENAL SYNDROME
   51 year old female with ESLD secondary to alcohol cirrhosis complicated
   by HRS requiring dialysis. Patient has been admitted in context of high
   MELD for possible transplant but has not been able to undergo testing
   [**12-26**] hypotension.
   .
   #. Hypotension: With CVP of 20, believed to be due to redistribution of
   fluids from the intravascular to extravascular compartments, as
   evidenced by hypotension and significant ascites/peripheral edema. In
   the ICU, through close BP monitoring plus pressors, hopefully can
   continue ESLD work-up without hypotension/lightheadedness being an
   obstacle. Pt completed EGD and dobhoff placement.  Now she is being
   weaned off pressors gradually, while undergoing CVVH.
   - Continue midodrine 15mg tid
   - 1 unit PRBC per renal recs for volume and BP
   - 50g albumin today (day [**1-24**] on [**11-14**])
   - Goal MAP >60; on norepinephrine [levo]. Wean today as tolerated.
   - f/u with hepatology
   - f/u renal recs re: HD vs CVVH
   - hold on CVVH for now
   - IVF as needed for BP; monitor PO2 and lung exam
   .
   #. Leukocytosis: Could be due to UF, but given concern for infection in
   setting of plan for transplant, looking for infectious source too.  C.
   diff negative.  Possible SBP given leukocytosis and tender abdomen, but
   no fever or evidence of SBP.
   - follow up cultures (blood, paracentesis)
   - vanc, zosyn, (started [**11-11**], d/c [**11-18**]) per ID
 7 day course of
   broad-spectrum antibiotics
   - check vanco trough
   - Change from PO flagyl to po Vanc for empiric C. Diff coverage (day 1
   [**11-13**])
   - add Micafungin 100 mg IV Q24H  for empiric fungal coverage(day 1
   [**11-13**])
   - Send stool cytotoxin assay, serum cryptogen, urine histoplasma per ID
   recs; will send serum histo level given pt does not make urine
   .
   #. End-stage liver disease: Patient currently stable and fully oriented
   with no clinically symptoms of acute liver decompensation. Patient has
   been evaluated by the transplant team as an outpatient who recommended
   admission for possible tranplant based on elevated MELD score. s/p EGD
   on [**11-7**]. s/p dobhoff placement on [**11-7**]. Listed for transplant for
   kidney/liver.  MELD [**11-7**] 40, [**11-11**] = 42.
   - EGD and Dobhoff done on [**11-7**].
   - Continue lactulose
   - Continue rifaximin to 400mg tid
   - 50g albumin today (day [**1-24**] on [**11-14**])
   - Since patient on broad-spectrum antibiotics, d/c cipro for SBP
   prophylaxis and then after 7-day course of broad-spectrum antibiotics
   ends, plan to restart cipro
   - Active T & S
   - F/u hepatology recs, transplant recs
   .
   # Renal Failure: Creatinine on transfer to MICU 4.2. Requires dialysis
   three times a week. Patient is candidate for dual liver-renal
   transplant and followed by Dr. [**Last Name (STitle) 9881**].
   - Holding sevelamer given pt
s hypophosphatemia
   - continue nephrocaps
   - f/u renal recs
   - Epo with HD for anemia of ESRD, MWF
   - Hold on CVVH; concern for over-diuresis as etiology of nausea and
   continued hypotension
   .
   # Nausea: Perhaps due to liver disease, pressors, CVVH, medications.
   - Zofran 8mg q8h IV; change from standing to prn given improved nausea
   - Morphine 0.5-1mg IV q4h prn
   - Hold on ativan if possible, given ESLD
   - Not tolerating tubefeeds, hold them
   .
   # Alcohol abuse: Patient has not had a drink since [**Month (only) 93**], therefore no
   need for CIWA.
   - Continue Folic Acid, Thiamine, MVI
   .
   FEN: Dobhoff in place. PO ok as tolerated.  Speak to nutrition re: PPN
   and advancing tube feeds given improving nausea but concern for
   over-feeding.
   .
   PPX:  DVT ppx with Pneumoboots; omeprazole 20mg daily; bowel regimen
   lactulose.
   .
   ACCESS: Power PICC, R IJ HD catheter, PIV.
   .
   CODE STATUS: Full code (confirmed with patient).
   .
   EMERGENCY CONTACT: [**Name (NI) **] [**Known lastname 4887**] (husband, [**Name (NI) 117**] [**Telephone/Fax (1) 9882**] (cell),
   [**Telephone/Fax (1) 9883**], [**Telephone/Fax (1) 9884**].
   .
   DISPOSITION: MICU until weaned off pressors. Listed for liver/kidney
   transplant.
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2169-11-13**] 05:55 PM 41 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2169-11-6**] 06:43 PM
   Dialysis Catheter - [**2169-11-6**] 08:00 PM
   20 Gauge - [**2169-11-12**] 11:11 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2169-11-14 10:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo with ETOH cirrhosis.  Had increased levophed requirement
   overnight up to 0.08mcg/kg/min.
   24 Hour Events:
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Phenylephrine
   Symptomatic bra
   Last dose of Antibiotics:
   Vancomycin - [**2169-11-12**] 08:30 AM
   Micafungin - [**2169-11-13**] 05:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-11-14**] 08:00 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   folate
   thiamin
   protonix
   SSI
   midodrine
   epo
   odansetron
   lactulose
   reglan
   albumin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-11-14**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36
C (96.8
   HR: 74 (57 - 76) bpm
   BP: 105/61(72) {87/39(51) - 106/61(72)} mmHg
   RR: 15 (15 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 94.5 kg
   Height: 62 Inch
             Total In:
                                                                  4,067 mL
                                                                    682 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  2,133 mL
                                                                    212 mL
   Blood products:
                                                                    550 mL
   Total out:
                                                                    370 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    370 mL
   Stool:
   Drains:
   Balance:
                                                                  3,697 mL
                                                                    682 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///12/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   8.9 g/dL
   148 K/uL
   143 mg/dL
   3.6 mg/dL
   12 mEq/L
   3.7 mEq/L
   33 mg/dL
   100 mEq/L
   129 mEq/L
   26.5 %
   18.1 K/uL
        [image002.jpg]
                            [**2169-11-10**]  04:00 PM
                            [**2169-11-10**]  09:58 PM
                            [**2169-11-11**]  04:11 AM
                            [**2169-11-11**]  09:45 AM
                            [**2169-11-11**]  03:50 PM
                            [**2169-11-11**]  09:43 PM
                            [**2169-11-12**]  04:09 AM
                            [**2169-11-13**]  03:09 AM
                            [**2169-11-13**]  06:30 PM
                            [**2169-11-14**]  04:16 AM
   WBC
   16.3
   15.2
   20.1
   18.1
   Hct
   26.7
   27.1
   24.4
   25.7
   26.5
   Plt
   134
   150
   175
   148
   Cr
   1.0
   1.0
   0.9
   0.5
   2.1
   3.6
   Glucose
   155
   174
   188
   129
   137
   194
   120
   170
   143
   Other labs: PT / PTT / INR:28.7/51.0/2.8, ALT / AST:21/77, Alk Phos / T
   Bili:101/21.2, Amylase / Lipase:/62, Lactic Acid:1.6 mmol/L,
   Albumin:3.5 g/dL, LDH:183 IU/L, Ca++:9.1 mg/dL, Mg++:2.3 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATORENAL SYNDROME
   HOTN:  Will try to give another unit of PRBC and another albumin today
   to improve BP.
   Leukocytosis:  Stable WBC on vanco/zosyn/mycafungin/flagyl.  Will
   change flagyl to vanco
   increase TFs rate.
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2169-11-13**] 05:55 PM 41 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2169-11-6**] 06:43 PM
   Dialysis Catheter - [**2169-11-6**] 08:00 PM
   20 Gauge - [**2169-11-12**] 11:11 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2169-11-15 07:30:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2169-11-14**] 05:15 PM
 ARTERIAL LINE - START [**2169-11-14**] 06:50 PM
 STOOL CULTURE - At [**2169-11-15**] 01:01 AM
   c-diff
   - 1 unit PRBC and albumin (no bump in Hct seen) on [**11-14**]
   - Changed from Flagyl to po Vanc for c. diff empiric tx
   - Sent stool cytotoxin, serum crypto
   - Urine histoplasma antigen not obtained bc pt does not make urine
   - Advancing tube feeds slowly; should speak to nutrition re:
   overfeeding given PPN and advancing tube feeds
   - Renal recs: HD vs CVVH not indicated [**11-14**] so f/u [**11-15**] whether HD
   will be better for her rather than CVVH
   -today: HD, give 1 unit blood and 50g albumin
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Phenylephrine
   Symptomatic bra
   Last dose of Antibiotics:
   Vancomycin - [**2169-11-12**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2169-11-14**] 04:00 PM
   Micafungin - [**2169-11-14**] 07:57 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2169-11-14**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-11-15**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.8
C (96.4
   HR: 68 (66 - 89) bpm
   BP: 102/49(66) {92/45(59) - 123/61(81)} mmHg
   RR: 14 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 94.5 kg
   Height: 62 Inch
             Total In:
                                                                  2,276 mL
                                                                    452 mL
   PO:
             TF:
                                                                    126 mL
                                                                     16 mL
   IVF:
                                                                    568 mL
                                                                     74 mL
   Blood products:
                                                                    550 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,276 mL
                                                                    452 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///11/
   Physical Examination
   GEN
 nad, sleepy but arousable and speaks in short phrases
   CV
 rrr, no murmurs
   PULM
 ctab
   ABD
 distended, soft, non-tender
   EXTR
 decreased pedal edema
   SKIN
 jaundiced
   Labs / Radiology
   132 K/uL
   9.1 g/dL
   104 mg/dL
   4.2 mg/dL
   11 mEq/L
   3.5 mEq/L
   43 mg/dL
   103 mEq/L
   132 mEq/L
   26.7 %
   14.3 K/uL
        [image002.jpg]
                            [**2169-11-10**]  09:58 PM
                            [**2169-11-11**]  04:11 AM
                            [**2169-11-11**]  09:45 AM
                            [**2169-11-11**]  03:50 PM
                            [**2169-11-11**]  09:43 PM
                            [**2169-11-12**]  04:09 AM
                            [**2169-11-13**]  03:09 AM
                            [**2169-11-13**]  06:30 PM
                            [**2169-11-14**]  04:16 AM
                            [**2169-11-15**]  02:33 AM
   WBC
   16.3
   15.2
   20.1
   18.1
   14.3
   Hct
   26.7
   27.1
   24.4
   25.7
   26.5
   26.7
   Plt
   134
   150
   175
   148
   132
   Cr
   1.0
   1.0
   0.9
   0.5
   2.1
   3.6
   4.2
   Glucose
   174
   188
   129
   137
   194
   120
   170
   143
   104
   Other labs: PT / PTT / INR:25.9/53.1/2.5, ALT / AST:23/74, Alk Phos / T
   Bili:87/21.7, Amylase / Lipase:/62, Lactic Acid:1.6 mmol/L, Albumin:3.5
   g/dL, LDH:165 IU/L, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:5.4 mg/dL
   LFT
s approximately stable
   INR from 2.8 to 2.5
   Vanco level [**11-14**] ~50
   Micro; c.diff negative [**11-12**] and [**11-14**]
   Serum cryptococcal antigen negative
   No new imaging today
 yesterday
s CXR:
   Increasing atelectasis in left lower lobe area. Recommend
   additional lateral view to exclude simultaneous pleural process.
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATORENAL SYNDROME
   .
   51 year old female with ESLD secondary to alcohol cirrhosis complicated
   by HRS requiring dialysis. Patient has been admitted in context of high
   MELD for possible transplant but has not been able to undergo testing
   [**12-26**] hypotension.
   .
   #. Hypotension: With CVP of 20, believed to be due to redistribution of
   fluids from the intravascular to extravascular compartments, as
   evidenced by hypotension and significant ascites/peripheral edema. In
   the ICU, through close BP monitoring plus pressors, hopefully can
   continue ESLD work-up without hypotension/lightheadedness being an
   obstacle. Pt completed EGD and dobhoff placement.  Now she is being
   weaned off pressors gradually, while undergoing CVVH. Off of pressors
   since [**11-14**] in the evening. s/p 4 days of albumin [**Date range (1) 10024**].
   - Currently off of pressors
   - Continue midodrine 15mg tid
   - 1 unit PRBC and 50g albumin today, per renal recs
   - Goal MAP >60; restart levo if needed.
   - f/u hepatology recs
   - f/u renal recs post-HD today
   - HD today for UF, not for volume removal
   - IVF as needed for BP; monitor PO2 and lung exam
   .
   #. Leukocytosis: Could be due to UF, but given concern for infection in
   setting of plan for transplant, looking for infectious source too.  C.
   diff negative.  Possible SBP given leukocytosis and tender abdomen, but
   no fever or evidence of SBP.
   - follow up cultures (blood, paracentesis)
   - vanc, zosyn, (started [**11-11**], d/c [**11-18**]) per ID
 7 day course of
   broad-spectrum antibiotics
   - check vanco trough tomorrow morning; hold on giving more vanco doses
   for now, until see trough coming down
   - Continue po vancomycin for empiric C. Diff coverage (day 1 [**11-13**])
   - continue Micafungin 100 mg IV Q24H  for empiric fungal coverage(day 1
   [**11-13**])
   - f/u stool cytotoxin assay, serum histoplasma per ID recs
   .
   # Metabolic acidosis: bicarb decreasing.
   - Hold on suctioning out bile
   - check ABG and lactate and pH today (now has a-line)
   .
   #. End-stage liver disease: Patient currently stable and fully oriented
   with no clinically symptoms of acute liver decompensation. Patient has
   been evaluated by the transplant team as an outpatient who recommended
   admission for possible tranplant based on elevated MELD score. s/p EGD
   on [**11-7**]. s/p dobhoff placement on [**11-7**]. Listed for transplant for
   kidney/liver.  MELD [**11-7**] 40, [**11-11**] = 42.
   - EGD and Dobhoff done on [**11-7**].
   - Continue lactulose
   - Continue rifaximin to 400mg tid
   - 50g albumin today (day [**1-24**] on [**11-14**])
   - Since patient on broad-spectrum antibiotics, d/c cipro for SBP
   prophylaxis and then after 7-day course of broad-spectrum antibiotics
   ends, plan to restart cipro
   - Active T & S
   - F/u hepatology recs, transplant recs
   .
   # Renal Failure: Creatinine on transfer to MICU 4.2. Requires dialysis
   three times a week. Patient is candidate for dual liver-renal
   transplant and followed by Dr. [**Last Name (STitle) 9881**].
   - Check with renal re: potentially restarting sevelamer given patient
   is hyperphos (was hypophos before) now
   - continue nephrocaps
   - f/u renal recs
   - Epo with HD for anemia of ESRD, MWF
   - Hold on CVVH; concern for over-diuresis as etiology of nausea and
   continued hypotension
   .
   # Nausea: Perhaps due to liver disease, pressors, CVVH, medications.
   - Zofran 8mg q8h IV prn
   - Morphine 0.5-1mg IV q4h prn
   - Hold on ativan if possible, given ESLD
   - Slow tubefeeds as tolerated
   .
   # Alcohol abuse: Patient has not had a drink since [**Month (only) 93**], therefore no
   need for CIWA.
   - Continue Folic Acid, Thiamine, MVI
   .
   FEN: Dobhoff in place. PO ok as tolerated.  Speak to nutrition re: PPN
   and advancing tube feeds given improving nausea but concern for
   over-feeding.
   .
   PPX:  DVT ppx with Pneumoboots; omeprazole 20mg daily; bowel regimen
   lactulose.
   .
   ACCESS: Power PICC, R IJ HD catheter, PIV.
   .
   CODE STATUS: Full code (confirmed with patient).
   .
   EMERGENCY CONTACT: [**Name (NI) **] [**Known lastname 4887**] (husband, [**Name (NI) 117**] [**Telephone/Fax (1) 9882**] (cell),
   [**Telephone/Fax (1) 9883**], [**Telephone/Fax (1) 9884**].
   .
   DISPOSITION: MICU now for HD and with close BP monitoring in case needs
   to return to pressors. Listed for liver/kidney transplant.
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2169-11-14**] 06:00 PM 41 mL/hour
   Nutren 2.0 (Full) - [**2169-11-15**] 05:46 AM 10 mL/hour
   Lines:
   PICC Line - [**2169-11-6**] 06:43 PM
   Dialysis Catheter - [**2169-11-6**] 08:00 PM
   20 Gauge - [**2169-11-12**] 11:11 AM
   Arterial Line - [**2169-11-14**] 06:50 PM
   Code status: Full code

2169-11-15 10:19:00 Physician Attending Progress Note
Chief Complaint: HOTN
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo women with ETOH cirrhosis, ESRD, awaiting transplant.  Weaned off
   vasopressors yesterday.  Getting HD today.
   24 Hour Events:
 BLOOD CULTURED - At [**2169-11-14**] 05:15 PM
 ARTERIAL LINE - START [**2169-11-14**] 06:50 PM
 STOOL CULTURE - At [**2169-11-15**] 01:01 AM
   c-diff
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Phenylephrine
   Symptomatic bra
   Last dose of Antibiotics:
   Micafungin - [**2169-11-14**] 07:57 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-11-15**] 07:45 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2169-11-14**] 08:00 PM
   Other medications:
   folate
   thiamine
   prevacid
   insulin SS
   vitamin D
   midodrine
   epo
   lactulose
   reglan
   zosyn
   micafungin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-11-15**] 10:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.4
C (95.8
   HR: 65 (65 - 81) bpm
   BP: 116/58(78) {92/45(59) - 123/61(81)} mmHg
   RR: 15 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 94.5 kg
   Height: 62 Inch
           Total In:
                                                                  2,276 mL
                                                                    806 mL
   PO:
           TF:
                                                                    126 mL
                                                                     43 mL
   IVF:
                                                                    568 mL
                                                                    151 mL
   Blood products:
                                                                    550 mL
                                                                    140 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,276 mL
                                                                    806 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///11/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   132 K/uL
   104 mg/dL
   4.2 mg/dL
   11 mEq/L
   3.5 mEq/L
   43 mg/dL
   103 mEq/L
   132 mEq/L
   26.7 %
   14.3 K/uL
        [image002.jpg]
                            [**2169-11-10**]  09:58 PM
                            [**2169-11-11**]  04:11 AM
                            [**2169-11-11**]  09:45 AM
                            [**2169-11-11**]  03:50 PM
                            [**2169-11-11**]  09:43 PM
                            [**2169-11-12**]  04:09 AM
                            [**2169-11-13**]  03:09 AM
                            [**2169-11-13**]  06:30 PM
                            [**2169-11-14**]  04:16 AM
                            [**2169-11-15**]  02:33 AM
   WBC
   16.3
   15.2
   20.1
   18.1
   14.3
   Hct
   26.7
   27.1
   24.4
   25.7
   26.5
   26.7
   Plt
   134
   150
   175
   148
   132
   Cr
   1.0
   1.0
   0.9
   0.5
   2.1
   3.6
   4.2
   Glucose
   174
   188
   129
   137
   194
   120
   170
   143
   104
   Other labs: PT / PTT / INR:25.9/53.1/2.5, ALT / AST:23/74, Alk Phos / T
   Bili:87/21.7, Amylase / Lipase:/62, Lactic Acid:1.6 mmol/L, Albumin:3.5
   g/dL, LDH:165 IU/L, Ca++:9.0 mg/dL, Mg++:2.3 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATORENAL SYNDROME
   HOTN:  resolved off pressors.  Continue midodrine
   ESRD:  running her even on HD today.
   leukocytosis: is on empiric course of broad spectrum antibiotics.  WBC
   down today.  No evidence of active infection that would preclude
   transplant
   acidosis: should improve with HD.
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2169-11-14**] 06:00 PM 41 mL/hour
   Nutren 2.0 (Full) - [**2169-11-15**] 05:46 AM 10 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2169-11-6**] 06:43 PM
   Dialysis Catheter - [**2169-11-6**] 08:00 PM
   20 Gauge - [**2169-11-12**] 11:11 AM
   Arterial Line - [**2169-11-14**] 06:50 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2169-11-16 10:23:00 Physician Attending Progress Note
Chief Complaint: HOTN
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   51 yo women with ETOH cirrhosis, ESRD on HD.  Tolerated HD well
   yesterday.  Has stayed off pressors.
   24 Hour Events:
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Phenylephrine
   Symptomatic bra
   Last dose of Antibiotics:
   Metronidazole - [**2169-11-15**] 04:00 PM
   Vancomycin - [**2169-11-15**] 06:15 PM
   Micafungin - [**2169-11-15**] 06:23 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-11-15**] 07:47 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2169-11-15**] 10:27 PM
   Other medications:
   folate
   midodrine
   epo
   lactulose
   reglan
   vanco PO
   granulex
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-11-16**] 10:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 79 (70 - 82) bpm
   BP: 112/58(76) {92/47(65) - 121/88(94)} mmHg
   RR: 20 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 94.5 kg
   Height: 62 Inch
             Total In:
                                                                  2,356 mL
                                                                    557 mL
   PO:
             TF:
                                                                    172 mL
                                                                     42 mL
   IVF:
                                                                    540 mL
                                                                    101 mL
   Blood products:
                                                                    550 mL
   Total out:
                                                                  1,270 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    420 mL
   Stool:
   Drains:
   Balance:
                                                                  1,086 mL
                                                                    557 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.50/26/99.[**Numeric Identifier 433**]/18/0
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   120 K/uL
   129 mg/dL
   3.0 mg/dL
   18 mEq/L
   3.1 mEq/L
   23 mg/dL
   105 mEq/L
   140 mEq/L
   30.3 %
   14.2 K/uL
        [image002.jpg]
                            [**2169-11-11**]  09:45 AM
                            [**2169-11-11**]  03:50 PM
                            [**2169-11-11**]  09:43 PM
                            [**2169-11-12**]  04:09 AM
                            [**2169-11-13**]  03:09 AM
                            [**2169-11-13**]  06:30 PM
                            [**2169-11-14**]  04:16 AM
                            [**2169-11-15**]  02:33 AM
                            [**2169-11-15**]  11:14 AM
                            [**2169-11-16**]  02:29 AM
   WBC
   15.2
   20.1
   18.1
   14.3
   14.2
   Hct
   27.1
   24.4
   25.7
   26.5
   26.7
   30.3
   Plt
   150
   175
   148
   132
   120
   Cr
   1.0
   0.9
   0.5
   2.1
   3.6
   4.2
   3.0
   TCO2
   21
   Glucose
   129
   137
   194
   120
   170
   143
   104
   129
   Other labs: PT / PTT / INR:24.6/48.1/2.5, ALT / AST:27/79, Alk Phos / T
   Bili:90/23.3, Amylase / Lipase:/62, Lactic Acid:1.7 mmol/L, Albumin:3.5
   g/dL, LDH:182 IU/L, Ca++:9.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
 LIVER FUNCTION ABNORMALITIES
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATORENAL SYNDROME
   HOTN: resolved, hold further albumin
   nausea:  likely related to increased TFs, will cut back to 10ml/hr.
   leukocytosis:  has improved, but still slightly high.  continue empiric
   antibiotics
   cirrhosis: awaitng transplant
   ESRD:  on intermittent HD
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2169-11-15**] 05:46 AM 10 mL/hour
   Peripheral Parenteral Nutrition - [**2169-11-15**] 06:23 PM 41 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2169-11-6**] 06:43 PM
   Dialysis Catheter - [**2169-11-6**] 08:00 PM
   20 Gauge - [**2169-11-12**] 11:11 AM
   Arterial Line - [**2169-11-14**] 06:50 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2169-11-17 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: ESLD, HRS, hypotension
   24 Hour Events:
   - Next HD will be [**11-18**].
   - Dobhoff tube plugged, tried diet coke and viokase.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)Wheezing;
   Phenylephrine Symptomatic bra
   Last dose of Antibiotics:
   Metronidazole - [**2169-11-15**] 04:00 PM
   Vancomycin - [**2169-11-15**] 06:15 PM
   Micafungin - [**2169-11-15**] 06:23 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-11-16**] 08:14 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2169-11-17**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.3
C (97.4
   HR: 72 (69 - 84) bpm
   BP: 106/48(66) {91/45(62) - 119/63(78)} mmHg
   RR: 16 (15 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 94.5 kg
   Height: 62 Inch
             Total In:
                                                                  1,757 mL
                                                                    529 mL
   PO:
             120 mL
   TF:
                                                                    202 mL
   IVF:
                                                                    441 mL
                                                                    104 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,757 mL
                                                                    529 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///17/
   Physical Examination
   GEN
 slow with responses but appropriate answers and questions
   CV
 RRR, no murmurs
   PULM
 CTA bilat
   ABD
 distended
   EXTR
 improved edema since ICU admission
   SKIN - jaundiced
   Labs / Radiology
   127 K/uL
   10.3 g/dL
   113 mg/dL
   3.9 mg/dL
   17 mEq/L
    3.0 mEq/L----20 KCL for K- 3.0
   34 mg/dL
   100 mEq/L
   134 mEq/L
   30.5 %
   16.5 K/uL
        [image002.jpg]
                            [**2169-11-11**]  03:50 PM
                            [**2169-11-11**]  09:43 PM
                            [**2169-11-12**]  04:09 AM
                            [**2169-11-13**]  03:09 AM
                            [**2169-11-13**]  06:30 PM
                            [**2169-11-14**]  04:16 AM
                            [**2169-11-15**]  02:33 AM
                            [**2169-11-15**]  11:14 AM
                            [**2169-11-16**]  02:29 AM
                            [**2169-11-17**]  04:06 AM
   WBC
   15.2
   20.1
   18.1
   14.3
   14.2
   16.5
   Hct
   27.1
   24.4
   25.7
   26.5
   26.7
   30.3
   30.5
   Plt
   150
   175
   148
   132
   120
   127
   Cr
   0.9
   0.5
   2.1
   3.6
   4.2
   3.0
   3.9
   TCO2
   21
   Glucose
   137
   194
   120
   170
   143
   104
   129
   113
   Other labs: PT / PTT / INR:23.3/48.7/2.2, ALT / AST:27/71, Alk Phos / T
   Bili:91/20.8, Amylase / Lipase:/62, Lactic Acid:1.7 mmol/L, Albumin:3.5
   g/dL, LDH:181 IU/L, Ca++:9.6 mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: Vanco 30
   Imaging: CXR [**11-16**] - The left PICC line tip is at the level of
   cavoatrial junction. The Dobbhoff tube is coiled within the stomach
   with its tip in the fundus. The right central double-lumen line tip is
   in the right atrium. The low lung volumes
   are unchanged. There is interval development of vascular engorgement,
   consistent with fluid overload. There is no evidence of overt failure.
   There
   are bibasilar opacities, consistent with areas of atelectasis.
   Microbiology: CRYPTOCOCCAL ANTIGEN negative
   Peritoneal fluid - prelim no growth
   BLOOD/FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED.
      BLOOD/AFB CULTURE (Preliminary):    NO MYCOBACTERIA ISOLATED.
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 LIVER FUNCTION ABNORMALITIES
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATORENAL SYNDROME
   51 year old female with ESLD secondary to alcohol cirrhosis complicated
   by HRS requiring dialysis. Patient has been admitted in context of high
   MELD for possible transplant but has not been able to undergo testing
   [**12-26**] hypotension.
   .
   #. Hypotension: With CVP of 20, believed to be due to redistribution of
   fluids from the intravascular to extravascular compartments, as
   evidenced by hypotension and significant ascites/peripheral edema. In
   the ICU, through close BP monitoring plus pressors, hopefully can
   continue ESLD work-up without hypotension/lightheadedness being an
   obstacle. Pt completed EGD and dobhoff placement.  Now she is being
   weaned off pressors gradually, while undergoing CVVH. Off of pressors
   since [**11-14**] in the evening. s/p 4 days of albumin [**Date range (1) 10024**].
   - Continue midodrine 15mg tid
   - Goal MAP >65; restart levo if needed
   - f/u hepatology recs
   - f/u renal recs
   - IVF as alternative/additional treatment for hypotension if needed
   - no more albumin for now
   .
   #. Leukocytosis: Could be due to UF, but given concern for infection in
   setting of plan for transplant, looking for infectious source too.  C.
   diff negative.  Possible SBP given leukocytosis and tender abdomen, but
   no fever or evidence of SBP.
   - will recheck c. diff
   - will discuss necessity of repeat paracentesis with transplant surgery
   (is it necessary for pt is to get transplant?)/
   - follow up cultures (blood, paracentesis)
   - vanc, zosyn, (started [**11-11**], d/c [**11-18**]) per ID
 need to follow up
   with ID total course of abxs
   - follow up this morning
s vanco trough and order one for tomorrow;
   hold on giving more vanco doses for now, pending result
   - continue po vancomycin for empiric C. Diff coverage (day 1=[**11-13**])
   - continue Micafungin 100 mg IV Q24h  for empiric fungal coverage(day
   1=[**11-13**])
   - f/u stool cytotoxin assay, serum histoplasma
   .
   #. End-stage liver disease: Patient currently stable and fully oriented
   with no clinically symptoms of acute liver decompensation. Patient has
   been evaluated by the transplant team as an outpatient who recommended
   admission for possible tranplant based on elevated MELD score. s/p EGD
   on [**11-7**]. s/p dobhoff placement on [**11-7**]. Listed for transplant for
   kidney/liver.  MELD [**11-7**] 40, [**11-11**] = 42.
   - Continue lactulose
   - Continue rifaximin
   - Since patient on broad-spectrum antibiotics, d/c
d cipro for SBP
   prophylaxis and then after 7-day course of broad-spectrum antibiotics
   ends (on [**11-18**]), plan to restart cipro for SBP prophylaxis
   - Active T & S
   - F/u hepatology recs, transplant recs
   .
   # Renal Failure: Creatinine on transfer to MICU 4.2. Requires dialysis
   three times a week. Patient is candidate for dual liver-renal
   transplant and followed by Dr. [**Last Name (STitle) 9881**].  Hepato-renal syndrome.
   - continue nephrocaps
   - f/u renal recs, in particular re: dialysis type and timing
   - Epo with HD for anemia of ESRD, M-W-F
   .
   # Nausea: Perhaps due to liver disease, pressors, CVVH, medications.
   Tolerating tubefeeds slowly.
   - Ok to take PO as tolerated/desired by patient
   - Tubefeeds running at 10 continuously (ie: do not escalate rate/dose)
   as tolerated
   - Zofran 8mg q8h IV prn
 aggressive giving of this medication as
   needed
   - Morphine 0.5-1mg IV q4h prn
   - Hold on ativan if possible, given ESLD
   - PPN so that volume of tubefeeds can be lower (ie: 10) [not doing TPN
   due to limited IV access, and coagulopathic so want to avoid extra
   invasive procedures in her]
   .
   # Metabolic acidosis: bicarb improved s/p HD on [**11-15**].
   - Hold on suctioning out bile
   - Monitor daily
   .
   # Alcohol abuse: Patient has not had a drink since [**Month (only) 93**], therefore no
   need for CIWA.
   - Discontinue folic acid, thiamine, MVI
 feel that she is now repleted
   (ie; getting nutrition, has been supplemented a lot)
   .
   # Heel ulcer:
   - f/u wound care recs; heel boot
   .
   FEN: Will try to get Dobhoff flowing, but will replace if need be.  PPN
   and tubefeeds (f/u nutrition recs).
   .
   PPX:  DVT ppx with Pneumoboots; omeprazole 20mg daily; bowel regimen =
   lactulose.
   .
   ACCESS: Power PICC, R IJ HD catheter, PIV, A-line.
   .
   CODE STATUS: Full code (confirmed with patient).
   .
   EMERGENCY CONTACT: [**Name (NI) **] [**Known lastname 4887**] (husband, [**Name (NI) 117**] [**Telephone/Fax (1) 9882**] (cell),
   [**Telephone/Fax (1) 9883**], [**Telephone/Fax (1) 9884**].
   .
   DISPOSITION: MICU now for close BP monitoring in case need to restart
   pressors. Presently, awaiting & listed for liver/kidney transplant.

2169-11-18 07:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - renal recs: replete K, HD tomorrow
   - liver recs: Dobhoff needs to be replaced, resend Cdiff, resend
   cultures, consider diagnostic para
   - ID recs: none
   - transplant sx: not doing diagnostic para will not interfere with
   transplant surgery as fas as they are concerned
   - Dobhoff still clogged, but taking soft diet, still on PPN
   - HD today (ordered 50g albumin this morning); going to try to take
   500mL off.
   - hepatology today recommends diagnostic tap for abdominal tenderness
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Phenylephrine
   Symptomatic bra
   Last dose of Antibiotics:
   Metronidazole - [**2169-11-15**] 04:00 PM
   Vancomycin - [**2169-11-15**] 06:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-11-17**] 08:00 AM
   Micafungin - [**2169-11-17**] 07:46 PM
   Piperacillin - [**2169-11-17**] 07:46 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-11-18**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 75 (70 - 86) bpm
   BP: 92/44(60) {90/44(60) - 122/64(129)} mmHg
   RR: 23 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 94.5 kg
   Height: 62 Inch
             Total In:
                                                                  1,596 mL
                                                                    388 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    491 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,596 mL
                                                                    388 mL
   Respiratory support
   SpO2: 100%
   ABG: ///15/
   Physical Examination
   GEN
 nad, more alert and interactive today
   CV
 rrr, no murmurs
   PULM
 relatively clear
   ABD
 distended TTP (incr at upper abdomen)
   EXTR
 less edema, 1+ b/l
   SKIN - jaundiced
   Labs / Radiology
   130 K/uL
   10.1 g/dL
   119 mg/dL
   4.5 mg/dL
   15 mEq/L
   3.4 mEq/L
   43 mg/dL
   100 mEq/L
   132 mEq/L
   28.4 %
   16.3 K/uL
        [image002.jpg]
                            [**2169-11-11**]  09:43 PM
                            [**2169-11-12**]  04:09 AM
                            [**2169-11-13**]  03:09 AM
                            [**2169-11-13**]  06:30 PM
                            [**2169-11-14**]  04:16 AM
                            [**2169-11-15**]  02:33 AM
                            [**2169-11-15**]  11:14 AM
                            [**2169-11-16**]  02:29 AM
                            [**2169-11-17**]  04:06 AM
                            [**2169-11-18**]  02:53 AM
   WBC
   15.2
   20.1
   18.1
   14.3
   14.2
   16.5
   16.3
   Hct
   27.1
   24.4
   25.7
   26.5
   26.7
   30.3
   30.5
   28.4
   Plt
   150
   175
   148
   132
   120
   127
   130
   Cr
   0.5
   2.1
   3.6
   4.2
   3.0
   3.9
   4.5
   TCO2
   21
   Glucose
   194
   120
   170
   143
   104
   129
   113
   119
   Other labs: PT / PTT / INR:22.8/48.9/2.1, ALT / AST:29/71, Alk Phos / T
   Bili:90/19.6, Amylase / Lipase:/62, Lactic Acid:1.7 mmol/L, Albumin:3.4
   g/dL, LDH:187 IU/L, Ca++:9.2 mg/dL, Mg++:2.0 mg/dL, PO4:3.9 mg/dL
   LFt
s approx stable
   Yesterday, vanco 30.0 level
   c.diff [**11-17**] negative (3 negative = 20, 22, 25 of the month)
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 LIVER FUNCTION ABNORMALITIES
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATORENAL SYNDROME
   51 year old female with ESLD secondary to alcohol cirrhosis complicated
   by HRS requiring dialysis. Patient has been admitted in context of high
   MELD for possible transplant but has not been able to undergo testing
   [**12-26**] hypotension.
   .
   #. Hypotension: With CVP of 20, believed to be due to redistribution of
   fluids from the intravascular to extravascular compartments, as
   evidenced by hypotension and significant ascites/peripheral edema. In
   the ICU, through close BP monitoring plus pressors, hopefully can
   continue ESLD work-up without hypotension/lightheadedness being an
   obstacle. Pt completed EGD and dobhoff placement.  Now she is being
   weaned off pressors gradually, while undergoing CVVH. Off of pressors
   since [**11-14**] in the evening. s/p 4 days of albumin [**Date range (1) 10024**].
   - Continue midodrine 15mg tid
   - Goal MAP >65; restart levo if needed
   - f/u hepatology recs
   - f/u renal recs
   - IVF as alternative/additional treatment for hypotension if needed
   - 50g albumin today pre-HD per renal
   .
   #. Leukocytosis: Could be due to UF, but given concern for infection in
   setting of plan for transplant, looking for infectious source too.  C.
   diff negative x3.  Possible SBP given leukocytosis and tender abdomen,
   but no fever or evidence of SBP.
   - diagnostic paracentesis today (radiology u/s to mark spot)
   - follow up cultures (blood, paracentesis)
   - vanc, zosyn, (started [**11-11**], d/c [**11-18**]) per ID
 need to follow up
   with ID total course of abxs
   - check vanco trough this AM, and give one final dose or not, depending
   on level, per renal
   - continue po vancomycin for empiric C. Diff coverage (day 1=[**11-13**])
   - continue Micafungin 100 mg IV Q24h  for empiric fungal coverage(day
   1=[**11-13**])
   - f/u stool cytotoxin assay, serum histoplasma
   .
   #. End-stage liver disease: Patient currently stable and fully oriented
   with no clinically symptoms of acute liver decompensation. Patient has
   been evaluated by the transplant team as an outpatient who recommended
   admission for possible tranplant based on elevated MELD score. s/p EGD
   on [**11-7**]. s/p dobhoff placement on [**11-7**]. Listed for transplant for
   kidney/liver.  MELD [**11-7**] 40, [**11-11**] = 42.
   - Continue lactulose
   - Continue rifaximin
   - Since patient on broad-spectrum antibiotics, d/c
d cipro for SBP
   prophylaxis and then after 7-day course of broad-spectrum antibiotics
   ends (on [**11-18**]), plan to restart cipro for SBP prophylaxis
   - Active T & S
   - F/u hepatology recs, transplant recs
   .
   # Renal Failure: Creatinine on transfer to MICU 4.2. Requires dialysis
   three times a week. Patient is candidate for dual liver-renal
   transplant and followed by Dr. [**Last Name (STitle) 9881**].  Hepato-renal syndrome.
   - HD today
   - continue nephrocaps
   - f/u renal recs
   - per renal, no more epo
   .
   # Nausea: Perhaps due to liver disease, pressors, CVVH, medications.
   - Ok to take PO as tolerated/desired by patient, encourage softs (and
   sit in chair)
   - Dobhoff clogged so not currently taking tubefeeds, but was tolerating
   them at slow rate
   - Zofran 8mg q8h IV prn
 aggressive giving of this medication as
   needed
   - Morphine 0.5-1mg IV q4h prn
   - Hold on ativan if possible, given ESLD
   - per transplant surgery, d/c PPN
   - clogged Dobhoff
 IR today to replace, then hopefully restart
   tubefeeds.
   .
   # Metabolic acidosis: bicarb improved s/p HD on [**11-15**].
   - Hold on suctioning out bile
   - Monitor daily; HD today
   .
   # Alcohol abuse: Patient has not had a drink since [**Month (only) 93**], therefore no
   need for CIWA.
   - Discontinue folic acid, thiamine, MVI
 feel that she is now repleted
   (ie; getting nutrition, has been supplemented a lot)
   .
   # Heel ulcer:
   - f/u wound care recs; heel boot
   .
   FEN: Replace Dobhoff today. d/c PPN per transplant surgery. PO intake
   today and hopefully restart tubefeeds soon.
   .
   PPX:  DVT ppx with Pneumoboots; omeprazole 20mg daily; bowel regimen =
   lactulose.
   .
   ACCESS: Power PICC, R IJ HD catheter, PIV, A-line.
   .
   CODE STATUS: Full code (confirmed with patient).
   .
   EMERGENCY CONTACT: [**Name (NI) **] [**Known lastname 4887**] (husband, [**Name (NI) 117**] [**Telephone/Fax (1) 9882**] (cell),
   [**Telephone/Fax (1) 9883**], [**Telephone/Fax (1) 9884**].
   .
   DISPOSITION: MICU now for close BP monitoring in case need to restart
   pressors. Presently, awaiting & listed for liver/kidney transplant.
   ICU Care
   Nutrition:
   Peripheral Parenteral Nutrition - [**2169-11-17**] 07:07 PM 41 mL/hour
   Lines:
   PICC Line - [**2169-11-6**] 06:43 PM
   Dialysis Catheter - [**2169-11-6**] 08:00 PM
   Arterial Line - [**2169-11-14**] 06:50 PM
   20 Gauge - [**2169-11-16**] 03:41 PM
   Code status: Full code

2169-11-19 05:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Dobhoff placed by IR; TF's restarted slowly this morning
   - per transplant attending, PPN stopped
   - HD on [**11-18**]
 no fluid removed
   - u/s marked para site - did not have time to do diagnostic
   paracentesis today however
   - hepatology today recommends 5L removal via therapeutic paracentesis
   today
   - dobhoff seems mildly clogged this morning
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Phenylephrine
   Symptomatic bra
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2169-11-17**] 08:00 AM
   Piperacillin - [**2169-11-18**] 09:04 PM
   Micafungin - [**2169-11-18**] 10:04 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-11-19**] 05:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36
C (96.8
   HR: 83 (69 - 91) bpm
   BP: 98/49(67) {86/44(59) - 131/65(87)} mmHg
   RR: 16 (12 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 94.5 kg
   Height: 62 Inch
             Total In:
                                                                  1,066 mL
                                                                     28 mL
   PO:
             TF:
   IVF:
                                                                    326 mL
                                                                     28 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,066 mL
                                                                     28 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   GEN
 nad, alert, interactive, appropriate but slow with speech
   CV
 rrr, no murmurs
   PULM - ctab
   ABD
 distended, diffusely tender to palpation
   EXTR
 edema much improved, now [**11-25**]+ b/l in legs/feet
   SKIN
 jaundiced significantly
   Labs / Radiology
   132 K/uL
   9.3 g/dL
   95 mg/dL
   3.0 mg/dL
   22 mEq/L
   3.4 mEq/L
   22 mg/dL
   104 mEq/L
   141 mEq/L
   27.4 %
   13.5 K/uL
        [image002.jpg]
                            [**2169-11-12**]  04:09 AM
                            [**2169-11-13**]  03:09 AM
                            [**2169-11-13**]  06:30 PM
                            [**2169-11-14**]  04:16 AM
                            [**2169-11-15**]  02:33 AM
                            [**2169-11-15**]  11:14 AM
                            [**2169-11-16**]  02:29 AM
                            [**2169-11-17**]  04:06 AM
                            [**2169-11-18**]  02:53 AM
                            [**2169-11-19**]  04:08 AM
   WBC
   15.2
   20.1
   18.1
   14.3
   14.2
   16.5
   16.3
   13.5
   Hct
   27.1
   24.4
   25.7
   26.5
   26.7
   30.3
   30.5
   28.4
   27.4
   Plt
   150
   175
   148
   132
   120
   127
   130
   132
   Cr
   0.5
   2.1
   3.6
   4.2
   3.0
   3.9
   4.5
   3.0
   TCO2
   21
   Glucose
   120
   170
   143
   104
   129
   113
   119
   95
   Other labs: PT / PTT / INR:22.8/51.4/2.1, ALT / AST:30/70, Alk Phos / T
   Bili:80/20.1, Amylase / Lipase:/62, Lactic Acid:1.7 mmol/L, Albumin:3.7
   g/dL, LDH:172 IU/L, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.7 mg/dL
   LFT
s approx all stable.
   Vanco 25.4 yesterday
   [**11-19**] c.diff pending (negative 20, 22, 25 of the month)
   Abd u/s [**11-18**]: IMPRESSION: Moderate ascites with appropriate spot for
   paracentesis marked in the right lower quadrant.
   CXR [**11-18**]: Successful replacement of feeding catheter, with tip located
   in the second part of duodenum.
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 LIVER FUNCTION ABNORMALITIES
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATORENAL SYNDROME
   51 year old female with ESLD secondary to alcohol cirrhosis complicated
   by HRS requiring dialysis. Patient has been admitted in context of high
   MELD for possible transplant but has not been able to undergo testing
   [**12-26**] hypotension.
   .
   #. Hypotension: With CVP of 20, believed to be due to redistribution of
   fluids from the intravascular to extravascular compartments, as
   evidenced by hypotension and significant ascites/peripheral edema. In
   the ICU, through close BP monitoring plus pressors, hopefully can
   continue ESLD work-up without hypotension/lightheadedness being an
   obstacle. Pt completed EGD and dobhoff placement.  Now she is being
   weaned off pressors gradually, while undergoing CVVH. Off of pressors
   since [**11-14**] in the evening. s/p 4 days of albumin [**Date range (1) 10024**], and on
   [**11-18**] pre-HD too.
   - Continue midodrine 15mg tid
   - Goal MAP >65; restart levo if needed
   - f/u hepatology recs
   - f/u renal recs
   - IVF as alternative/additional treatment for hypotension if needed
   - antibiotics as below
   - consider giving albumin prior to today
s therapeutic paracentesis
   .
   #. Leukocytosis: Could be due to UF, but given concern for infection in
   setting of plan for transplant, looking for infectious source too.  C.
   diff negative x3.  Possible SBP given leukocytosis and tender abdomen,
   but no fever or evidence of SBP. s/p 7 day course of empiric vanc and
   zosyn that ran from [**11-11**] to [**11-18**].
   - confirm with ID that vanc/zosyn empiric course should end after 7
   days, versus continuing for a longer period of time
   - diagnostic paracentesis today (radiology u/s marked spot on [**11-18**]);
   plus therapeutic approx 5L planned too
   - follow up cultures (blood, paracentesis)
   - continue po vancomycin for empiric C. Diff coverage (day 1=[**11-13**])
   - continue Micafungin 100 mg IV Q24h  for empiric fungal coverage(day
   1=[**11-13**])
   - f/u stool cytotoxin assay, serum histoplasma
   .
   #. End-stage liver disease: Patient currently stable and fully oriented
   with no clinically symptoms of acute liver decompensation. Patient has
   been evaluated by the transplant team as an outpatient who recommended
   admission for possible tranplant based on elevated MELD score. s/p EGD
   on [**11-7**]. s/p dobhoff placement on [**11-7**]. Listed for transplant for
   kidney/liver.  MELD [**11-7**] 40, [**11-11**] = 42.
   - Continue lactulose
   - Continue rifaximin
   - Since patient on broad-spectrum antibiotics, d/c
d cipro for SBP
   prophylaxis and then after 7-day course of broad-spectrum antibiotics
   ends (on [**11-18**]), plan to restart cipro for SBP prophylaxis = today;
   confirm vanc/zosyn treatment course length first with ID then add back
   or not the cipro
   - Active T & S
   - F/u hepatology recs, transplant recs
   - diagnostic and therapeutic paracentesis today
   .
   # Renal Failure: Creatinine on transfer to MICU 4.2. Requires dialysis
   three times a week. Patient is candidate for dual liver-renal
   transplant and followed by Dr. [**Last Name (STitle) 9881**].  Hepato-renal syndrome. s/p HD
   on [**11-18**]
   - continue nephrocaps
   - f/u renal recs
   - per renal, no more epo
   .
   # Nausea: Perhaps due to liver disease, pressors, CVVH, medications.
   New Dobhoff placed by IR (d/t clog) on [**11-18**].
   - try to unclog Dobhoff; if not, call IR for help
   - Ok to take PO as tolerated/desired by patient, encourage
   - Dobhoff replaced; tubefeeds should be running slowly, advance as
   tolerated slowly if possible
   - Zofran 8mg q8h IV prn
 aggressive giving of this medication as
   needed
   - Morphine 0.5-1mg IV q4h prn
   - Hold on ativan if possible, given ESLD
   - per transplant surgery, d/c
d PPN
   .
   # Metabolic acidosis: bicarb improved s/p HD. Resolved.
   - Hold on suctioning out bile
   - Monitor daily
   .
   # Alcohol abuse: Patient has not had a drink since [**Month (only) 93**], therefore no
   need for CIWA.
   - Discontinued folic acid, thiamine, MVI
 feel that she is now
   repleted (ie; getting nutrition, has been supplemented a lot)
   .
   # Heel ulcer:
   - f/u wound care recs; heel boot
   .
   FEN: Dobhoff
 try to unclog and then use. PO intake today and
   tubefeeds.
   .
   PPX:  DVT ppx with Pneumoboots; omeprazole 20mg daily; bowel regimen =
   lactulose. Out of bed today.
   .
   ACCESS: Power PICC, R IJ HD catheter, A-line.
   .
   CODE STATUS: Full code (confirmed with patient).
   .
   EMERGENCY CONTACT: [**Name (NI) **] [**Known lastname 4887**] (husband, [**Name (NI) 117**] [**Telephone/Fax (1) 9882**] (cell),
   [**Telephone/Fax (1) 9883**], [**Telephone/Fax (1) 9884**].
   .
   DISPOSITION: MICU now for close BP monitoring in case need to restart
   pressors. Presently, awaiting & listed for liver/kidney transplant.
   ICU Care
   Lines:
   PICC Line - [**2169-11-6**] 06:43 PM
   Dialysis Catheter - [**2169-11-6**] 08:00 PM
   Arterial Line - [**2169-11-14**] 06:50 PM
   Code status: Full code

2169-11-20 05:54:00 Physician Resident Progress Note
Chief Complaint: 51 yof with h/o ESLD [**12-26**] ETOH cirrhosis c/b HRS
   requiring HD admitted for possible KL transplant.
   24 Hour Events:
   - did large volume para - 4.5 liters removed and fluid sent for
   analysis.
   - dobhoff clogged -- placed order for IR dobhoff placement in AM.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Wheezing;
   Phenylephrine
   Symptomatic bra
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2169-11-17**] 08:00 AM
   Micafungin - [**2169-11-19**] 09:27 PM
   Piperacillin - [**2169-11-19**] 09:27 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-11-20**] 05:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.1
   HR: 76 (76 - 89) bpm
   BP: 95/42(58) {87/40(56) - 125/65(83)} mmHg
   RR: 15 (15 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 99 kg (admission): 94.5 kg
   Height: 62 Inch
             Total In:
                                                                    710 mL
                                                                    269 mL
   PO:
                                                                    380 mL
                                                                    240 mL
   TF:
                                                                     10 mL
   IVF:
                                                                    220 mL
                                                                     29 mL
   Blood products:
                                                                    100 mL
   Total out:
                                                                  4,500 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
                                                                  4,500 mL
   Balance:
                                                                 -3,790 mL
                                                                    269 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   General:
   HEENT:
   Heart:
   Lungs:
   Abdomen:
   Extremities:
   Labs / Radiology
   148 K/uL
   9.5 g/dL
   99 mg/dL
   3.9 mg/dL
   18 mEq/L
   3.9 mEq/L
   27 mg/dL
   100 mEq/L
   135 mEq/L
   28.0 %
   14.9 K/uL
        [image002.jpg]
                            [**2169-11-13**]  03:09 AM
                            [**2169-11-13**]  06:30 PM
                            [**2169-11-14**]  04:16 AM
                            [**2169-11-15**]  02:33 AM
                            [**2169-11-15**]  11:14 AM
                            [**2169-11-16**]  02:29 AM
                            [**2169-11-17**]  04:06 AM
                            [**2169-11-18**]  02:53 AM
                            [**2169-11-19**]  04:08 AM
                            [**2169-11-20**]  03:51 AM
   WBC
   20.1
   18.1
   14.3
   14.2
   16.5
   16.3
   13.5
   14.9
   Hct
   24.4
   25.7
   26.5
   26.7
   30.3
   30.5
   28.4
   27.4
   28.0
   Plt
   175
   148
   132
   120
   127
   130
   132
   148
   Cr
   2.1
   3.6
   4.2
   3.0
   3.9
   4.5
   3.0
   3.9
   TCO2
   21
   Glucose
   170
   143
   104
   129
   113
   119
   95
   99
   Other labs: PT / PTT / INR:23.0/50.3/2.2, ALT / AST:29/108, Alk Phos /
   T Bili:83/19.6, Amylase / Lipase:/62, Lactic Acid:1.7 mmol/L,
   Albumin:3.7 g/dL, LDH:391 IU/L, Ca++:9.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.3
   mg/dL
   Microbiology
   - [**11-19**]
 paracentesis fluid
 1+ PMN
s, no bacteria
   - [**11-19**]
 c.diff toxin negative
   - [**11-17**]
 c.diff toxin negative
   Radiology
   - No new imaging
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 LIVER FUNCTION ABNORMALITIES
 IMPAIRED SKIN INTEGRITY
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HEPATORENAL SYNDROME
   51 year old female with ESLD secondary to alcohol cirrhosis complicated
   by HRS requiring dialysis. Patient has been admitted in context of high
   MELD for possible transplant but has not been able to undergo testing
   [**12-26**] hypotension.
   .
   #. Hypotension: With CVP of 20, believed to be due to redistribution of
   fluids from the intravascular to extravascular compartments, as
   evidenced by hypotension and significant ascites/peripheral edema. In
   the ICU, through close BP monitoring plus pressors, hopefully can
   continue ESLD work-up without hypotension/lightheadedness being an
   obstacle. Pt completed EGD and dobhoff placement.  Now she is being
   weaned off pressors gradually, while undergoing CVVH. Off of pressors
   since [**11-14**] in the evening. s/p 4 days of albumin [**Date range (1) 10024**], and on
   [**11-18**] pre-HD too.
   - Continue midodrine 15mg tid
   - Goal MAP >65; restart levo if needed
   - f/u hepatology recs
   - f/u renal recs
   - IVF as alternative/additional treatment for hypotension if needed
   - antibiotics as below
   - consider giving albumin prior to today
s therapeutic paracentesis
   .
   #. Leukocytosis: Could be due to UF, but given concern for infection in
   setting of plan for transplant, looking for infectious source too.  C.
   diff negative x3.  Possible SBP given leukocytosis and tender abdomen,
   but no fever or evidence of SBP. s/p 7 day course of empiric vanc and
   zosyn that ran from [**11-11**] to [**11-18**].
   - confirm with ID that vanc/zosyn empiric course should end after 7
   days, versus continuing for a longer period of time
   - diagnostic paracentesis today (radiology u/s marked spot on [**11-18**]);
   plus therapeutic approx 5L planned too
   - follow up cultures (blood, paracentesis)
   - continue po vancomycin for empiric C. Diff coverage (day 1=[**11-13**])
   - continue Micafungin 100 mg IV Q24h  for empiric fungal coverage(day
   1=[**11-13**])
   - f/u stool cytotoxin assay, serum histoplasma
   .
   #. End-stage liver disease: Patient currently stable and fully oriented
   with no clinically symptoms of acute liver decompensation. Patient has
   been evaluated by the transplant team as an outpatient who recommended
   admission for possible tranplant based on elevated MELD score. s/p EGD
   on [**11-7**]. s/p dobhoff placement on [**11-7**]. Listed for transplant for
   kidney/liver.  MELD [**11-7**] 40, [**11-11**] = 42.
   - Continue lactulose
   - Continue rifaximin
   - Since patient on broad-spectrum antibiotics, d/c
d cipro for SBP
   prophylaxis and then after 7-day course of broad-spectrum antibiotics
   ends (on [**11-18**]), plan to restart cipro for SBP prophylaxis = today;
   confirm vanc/zosyn treatment course length first with ID then add back
   or not the cipro
   - Active T & S
   - F/u hepatology recs, transplant recs
   - diagnostic and therapeutic paracentesis today
   .
   # Renal Failure: Creatinine on transfer to MICU 4.2. Requires dialysis
   three times a week. Patient is candidate for dual liver-renal
   transplant and followed by Dr. [**Last Name (STitle) 9881**].  Hepato-renal syndrome. s/p HD
   on [**11-18**]
   - continue nephrocaps
   - f/u renal recs
   - per renal, no more epo
   .
   # Nausea: Perhaps due to liver disease, pressors, CVVH, medications.
   New Dobhoff placed by IR (d/t clog) on [**11-18**].
   - try to unclog Dobhoff; if not, call IR for help
   - Ok to take PO as tolerated/desired by patient, encourage
   - Dobhoff replaced; tubefeeds should be running slowly, advance as
   tolerated slowly if possible
   - Zofran 8mg q8h IV prn
 aggressive giving of this medication as
   needed
   - Morphine 0.5-1mg IV q4h prn
   - Hold on ativan if possible, given ESLD
   - per transplant surgery, d/c
d PPN
   .
   # Metabolic acidosis: bicarb improved s/p HD. Resolved.
   - Hold on suctioning out bile
   - Monitor daily
   .
   # Alcohol abuse: Patient has not had a drink since [**Month (only) 93**], therefore no
   need for CIWA.
   - Discontinued folic acid, thiamine, MVI
 feel that she is now
   repleted (ie; getting nutrition, has been supplemented a lot)
   .
   # Heel ulcer:
   - f/u wound care recs; heel boot
   .
   FEN: Dobhoff
 try to unclog and then use. PO intake today and
   tubefeeds.
   .
   PPX:  DVT ppx with Pneumoboots; omeprazole 20mg daily; bowel regimen =
   lactulose. Out of bed today.
   .
   ACCESS: Power PICC, R IJ HD catheter, A-line.
   .
   CODE STATUS: Full code (confirmed with patient).
   .
   EMERGENCY CONTACT: [**Name (NI) **] [**Known lastname 4887**] (husband, [**Name (NI) 117**] [**Telephone/Fax (1) 9882**] (cell),
   [**Telephone/Fax (1) 9883**], [**Telephone/Fax (1) 9884**].
   .
   DISPOSITION: MICU now for close BP monitoring in case need to restart
   pressors. Presently, awaiting & listed for liver/kidney transplant.
   ICU Care
   Lines:
   PICC Line - [**2169-11-6**] 06:43 PM
   Dialysis Catheter - [**2169-11-6**] 08:00 PM
   Arterial Line - [**2169-11-14**] 06:50 PM
   Code status: Full code
   ------ Protected Section ------
   Critical Care Attending Addendum
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided. I agree with his /
   her note above, including assessment and plan.
   HD yesterday- dobhoff tube replaced, but questionable function this am.
   Reports abd distention/discomfort this am.
   On exam, alert, conversant - T97.3 90 106/54 off pressors RR 16 94% RA.
   Profoundly jaundiced - dobhoff in place, mm dry. Lungs w/decreased BS
   bilat. Distant HS w/o murmur. Abd distended, minimally tender +BS. Ext
   w/o clubbing or cyanosis.
   Lab data notable for WBC 13.5 HCT 27.4. INR 2.1. Vanco 25.4. 4th Cdiff
   pending.
   51 yo w/ESLD, hepatorenal disease here awaiting liver transplant.
   Continuing current regimen including rifaximin/lactulose/mitodrine.
   Finishing broad spectrum antibiotics and check on extending length of
   course w/ID. Hemodialysis tomorrow. Diagnostic/therapeutic paracentesis
   today given abd tenderness. Try to increase POs today - sit out of bed.
   Try to unclog dobhoff and restart tube feeds. Full code. Possible call
   out if continued stability following paracentesis.
   [**First Name4 (NamePattern1) 322**] [**Last Name (NamePattern1) **], MD
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2169-11-6**] 06:43 PM
   Dialysis Catheter - [**2169-11-6**] 08:00 PM
   Arterial Line - [**2169-11-14**] 06:50 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: